### PR TITLE
feat: the unramified primes carrying a prescribed Artin class

### PR DESCRIPTION
**Pull request by sqrt-of-2**
This PR defines `NumberField.Chebotarev.frobeniusPrimeSet K L C`, the set of height-one primes of `𝓞 K` that are unramified in a finite Galois `L / K` and whose Artin class is a given conjugacy class `C` of `Gal(L/K)`, and proves the API the Chebotarev roadmap's **Layer 2: Frobenius prime sets and finite exceptional sets** asks for around it. That layer pins the carrier

```text
frobeniusPrimeSet K L C : Set (HeightOneSpectrum (𝓞 K))
```

"by the dependent condition that there exists an unramifiedness proof `hur` with `artinSymbol 𝔭.asIdeal hur = C`", and then asks to "Prove proof-independence, equivariance under isomorphisms of extensions, disjointness for distinct classes, and that the union over all classes is exactly the set of unramified primes." The second half of the layer — `ramifiedPrimes K L` and its membership lemma — landed in #5400; this PR supplies the class-indexed half, joins the two, and adds the layer's equivariance statement, so that after it Layer 2 is closed.

Roadmap: Chebotarev

New file `TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean`, next to the existing `Chebotarev/RamifiedPrimes.lean`, in the roadmap's pinned namespace `NumberField.Chebotarev`. Its shape follows the roadmap's `Suggested.lean` lines 64–76 for `frobeniusPrimeSet` and `disjoint_frobeniusPrimeSet`.

| declaration | statement |
| --- | --- |
| `frobeniusPrimeSet` | the definition, with the unramifiedness proof packaged existentially |
| `mem_frobeniusPrimeSet_iff` | membership unfolded, so downstream files need not rely on defeq |
| `mem_frobeniusPrimeSet_iff_artinSymbol_eq` | proof-independence: with any `hur` in hand, membership is `artinSymbol 𝔭.asIdeal hur = C` |
| `mem_frobeniusPrimeSet_artinSymbol` | an unramified prime lies in the fibre of its own class |
| `isUnramifiedAt_of_mem_frobeniusPrimeSet` | a member is unramified in `L` |
| `frobeniusPrimeSet_subset_compl_ramifiedPrimes` | the fibres avoid `ramifiedPrimes K L` |
| `mem_frobeniusPrimeSet_mk_of_isArithFrobAt` | a Frobenius at a prime above `𝔭` witnesses membership in the fibre of its class |
| `exists_isArithFrobAt_of_mem_frobeniusPrimeSet` | conversely, `σ` itself is a Frobenius at *some* prime above `𝔭` |
| `mem_frobeniusPrimeSet_mk_iff_exists_isArithFrobAt` | the two combined, the workhorse form |
| `frobeniusPrimeSet_map_autCongr` | equivariance: an isomorphism `e : L ≃ₐ[K] L'` of extensions matches the fibre of `C` with the fibre of `ConjClasses.map (AlgEquiv.autCongr e) C` |
| `disjoint_frobeniusPrimeSet`, `pairwise_disjoint_frobeniusPrimeSet` | distinct classes, disjoint fibres |
| `iUnion_frobeniusPrimeSet` | `⋃ C, frobeniusPrimeSet K L C = (↑(ramifiedPrimes K L))ᶜ` |
| `existsUnique_mem_frobeniusPrimeSet` | an unramified prime lies in exactly one fibre |
| `finite_compl_iUnion_frobeniusPrimeSet` | the uncovered remainder is finite |

Equivariance rests on three transport steps, two of which are Mathlib's already: `Ideal.IsPrime.comap` and `Ideal.comap_liesOver` are instances, so primality and lying over `𝔭` cross the induced `𝓞 L ≃ₐ[𝓞 K] 𝓞 L'` (`NumberField.RingOfIntegers.mapAlgEquiv`) without a new lemma, and the two `Ideal.under`s agree by `Ideal.LiesOver.over`. What had to be proved is unramifiedness — `Algebra.isUnramifiedAt_of_eq_comap_algEquiv`, the one declaration of the new file `TauCeti/RingTheory/Unramified/AlgEquiv.lean`, which runs `IsLocalization.algEquivOfAlgEquiv` into `Algebra.FormallyUnramified.of_equiv` — and the Frobenius condition, `NumberField.isArithFrobAt_autCongr` in `ArtinSymbol.lean`. Those give `NumberField.artinSymbol_eq_map_autCongr`, equivariance of the symbol itself, and the prime-set statement follows from it together with `NumberField.forall_isUnramifiedAt_iff_of_algEquiv`, which says unramifiedness above `𝔭` does not depend on the model of the extension.

The mathematically substantive lemma is `exists_isArithFrobAt_of_mem_frobeniusPrimeSet`. Membership in the fibre of `[σ]` is, by definition, a statement about the class of a Frobenius at *one* prime above `𝔭`; the lemma upgrades it to a statement about `σ` on the nose, by observing that conjugating a Frobenius is the same move as translating the prime it sits at. Concretely, a Frobenius `σ₀` at some `Q₀` above `𝔭` is conjugate to `σ`, say `σ = τ * σ₀ * τ⁻¹`, and Mathlib's `IsArithFrobAt.conj` makes that conjugate a Frobenius at `τ • Q₀`, which by `Ideal.LiesOver.smul` still lies above `𝔭`. This is what lets later layers pick a representative of a class and then work with a genuine prime, which is how the fixed-field fibre count of Layer 8 and the crossing argument of Layer 9 are stated.

The roadmap forbids a total Frobenius function with junk at the ramified primes, so the definition carries the unramifiedness proof existentially. Nothing is left ambiguous by that: `Algebra.IsUnramifiedAt` is a `Prop`, so two unramifiedness proofs are definitionally equal and `artinSymbol 𝔭.asIdeal hur` does not depend on `hur`. That is exactly what `mem_frobeniusPrimeSet_iff_artinSymbol_eq` records, and it is why `disjoint_frobeniusPrimeSet` needs no transport along a proof equality. `iUnion_frobeniusPrimeSet` and `existsUnique_mem_frobeniusPrimeSet` are the partition that Layer 3 and the density squeeze consume: outside a finite exceptional set every prime is counted exactly once, which is what makes the per-class lower bounds squeezable to exact densities.

Prior art was checked before writing. `grep -rn 'frobeniusPrimeSet' Mathlib TauCeti` at the pinned commit returns nothing; Mathlib has `IsArithFrobAt`, `arithFrobAt`, `IsArithFrobAt.conj` and `Ideal.LiesOver.smul`, all of which are consumed rather than restated, but it has no prime set indexed by a conjugacy class. `artinSymbol` and `artinSymbol_eq_mk_of_isArithFrobAt` come from `TauCeti/NumberTheory/NumberField/ArtinSymbol.lean` (#5346), the existence of relative Frobenius elements from `TauCeti/NumberTheory/NumberField/Frobenius.lean`, and `ramifiedPrimes`/`mem_ramifiedPrimes_iff` from `TauCeti/NumberTheory/Chebotarev/RamifiedPrimes.lean` (#5400); none of them is re-proved here. No Mathlib source was vendored.

Note for readers of the namespace: `NumberField.Chebotarev` is nested inside `NumberField`, so within this file a bare `ramifiedPrimes` resolves to the relative `Chebotarev` one and shadows the absolute `NumberField.ramifiedPrimes`, exactly as the module docstring of `Chebotarev/RamifiedPrimes.lean` describes.

🤖 Prepared with Claude Code

### CODE REVIEW

**Comment by kbuzzard** [comment]
🔍 Review in progress — `claude` reviewing `f89c4b5722d0`.

File: TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean
Comment (kbuzzard) [inline TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:1]: ### 🟡 api-design — request_changes  `claude/claude-opus-5`

The surface is minimal, the body is unexposed, and the characteristic API (intro, elim, proof-independence, disjointness, union, uniqueness) is complete. One fixable interface defect: the exported "prime above 𝔭" existential is spelled with anonymous binders over the typeclass proofs instead of Mathlib's `Ideal.primesOver`, so consumers of the workhorse lemma lose instance resolution.

- `TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:147` — `exists_isArithFrobAt_of_mem_frobeniusPrimeSet` (line 147) and `mem_frobeniusPrimeSet_mk_iff_exists_isArithFrobAt` (line 172) export `∃ (Q : Ideal (𝓞 L)) (_ : Q.IsPrime) (_ : Q.LiesOver 𝔭.asIdeal), IsArithFrobAt (𝓞 K) σ Q`. Destructuring yields plain hypotheses, not instances, so every consumer must re-introduce them by `haveI`/`let _` before applying anything with `[Q.IsPrime]`/`[Q.LiesOver 𝔭.asIdeal]` — i.e. `artinSymbol`, `artinSymbol_eq_mk_of_isArithFrobAt`, `Ideal.inertiaDeg`, and the Layer 8 tower lemmas that are the stated consumers. The introduction form `mem_frobeniusPrimeSet_mk_of_isArithFrobAt` (line 133) takes those same facts as instances, so intro and elim disagree on how they say "prime above 𝔭". _Fix:_ State both with Mathlib's carrier: `∃ Q : 𝔭.asIdeal.primesOver (𝓞 L), IsArithFrobAt (𝓞 K) σ Q.1`. `Ideal.primesOver.isPrime` and `Ideal.primesOver.liesOver` then fire automatically for consumers, and `Ideal.primesOver.mk` bridges from the instance-style intro lemma. The proof already builds its witness through `Classical.choice (α := 𝔭.asIdeal.primesOver (𝓞 L))` at line 152, and `artinSymbol` itself (ArtinSymbol.lean:44) uses the same carrier.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`claude/claude-opus-5` · 282s · 22 in / 21.4k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/7d443c4c6d65c35d9fce1a5e66756fe51129dd78...f89c4b5722d00d4ad81071609cb9408e30b8e357) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/e774be4c67efe5a3722863f99f91f314beb9fa51/rubrics/api-design.md)</sub>

Comment (kbuzzard) [inline TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:1]: ### 🟡 generality — request_changes  `claude/claude-opus-5`

Hypotheses and carrier match the roadmap-pinned Layer 2 signature, with no unused or over-strong assumptions. The one level problem is that the PR's substantive result — the converse of the Artin symbol's characteristic property — is stated only through the Chebotarev-specific `frobeniusPrimeSet`/`HeightOneSpectrum` wrapper instead of at the `artinSymbol` (ideal) level where its forward direction lives.

- `TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:145` — `exists_isArithFrobAt_of_mem_frobeniusPrimeSet` is a fact about `artinSymbol` — the exact converse of `artinSymbol_eq_mk_of_isArithFrobAt` (ArtinSymbol.lean:55, indexed by `𝔭 : Ideal (𝓞 K)` with `[𝔭.IsMaximal]`) — but is only reachable through the Chebotarev carrier. Consumers holding `artinSymbol 𝔭 hur = ConjClasses.mk σ` for an ideal `𝔭` (the roadmap's frozen `artinSymbol` contract, README.md:133-137, used directly by Layers 8-9 and by non-Chebotarev consumers that will not import this file) cannot apply it. _Fix:_ Prove the general form next to its forward direction in ArtinSymbol.lean: `exists_isArithFrobAt_of_artinSymbol_eq (𝔭 : Ideal (𝓞 K)) [𝔭.IsMaximal] (hur) {σ} (h : artinSymbol 𝔭 hur = ConjClasses.mk σ) : ∃ Q, ∃ _ : Q.IsPrime, ∃ _ : Q.LiesOver 𝔭, IsArithFrobAt (𝓞 K) σ Q`, then derive `exists_isArithFrobAt_of_mem_frobeniusPrimeSet` and `mem_frobeniusPrimeSet_mk_iff_exists_isArithFrobAt` from it in two lines via `mem_frobeniusPrimeSet_iff_artinSymbol_eq` (and, for a class given as `C` with a chosen representative, `ConjClasses.mem_carrier_iff_mk_eq`).

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`claude/claude-opus-5` · 304s · 30 in / 23k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/7d443c4c6d65c35d9fce1a5e66756fe51129dd78...f89c4b5722d00d4ad81071609cb9408e30b8e357) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/e774be4c67efe5a3722863f99f91f314beb9fa51/rubrics/generality.md)</sub>

Comment (kbuzzard) [inline TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:1]: ### 🟡 placement — request_changes  `claude/claude-opus-5`

File placement in TauCeti/NumberTheory/Chebotarev/ and all three imports are correct. One misplacement: the generic Artin-symbol lemma (converse of artinSymbol_eq_mk_of_isArithFrobAt) is stated only through frobeniusPrimeSet in this later file instead of in NumberField/ArtinSymbol.lean.

- `TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:145` — exists_isArithFrobAt_of_mem_frobeniusPrimeSet carries generic artinSymbol content — for 𝔭 unramified with artinSymbol 𝔭 hur = ConjClasses.mk σ, σ is a Frobenius at some prime above 𝔭 — but is phrased through the Chebotarev-specific frobeniusPrimeSet, so the converse of artinSymbol_eq_mk_of_isArithFrobAt is unavailable to any Artin-symbol user that does not import the Chebotarev layer. _Fix:_ Move the core to TauCeti/NumberTheory/NumberField/ArtinSymbol.lean next to artinSymbol_eq_mk_of_isArithFrobAt, e.g. exists_isArithFrobAt_of_artinSymbol_eq_mk (𝔭 : Ideal (𝓞 K)) [𝔭.IsMaximal] (hur ...) (h : artinSymbol 𝔭 hur = ConjClasses.mk σ) : ∃ Q, ..., and keep exists_isArithFrobAt_of_mem_frobeniusPrimeSet here as the one-line consequence after unpacking the existential.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`claude/claude-opus-5` · 116s · 17 in / 8.7k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/7d443c4c6d65c35d9fce1a5e66756fe51129dd78...f89c4b5722d00d4ad81071609cb9408e30b8e357) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/e774be4c67efe5a3722863f99f91f314beb9fa51/rubrics/placement.md)</sub>

Comment (kbuzzard) [inline TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:1]: ### 🟡 documentation — request_changes  `claude/claude-opus-5`

Docstrings are present, accurate, and non-overclaiming throughout; the only defect is that two docstrings describe the proof rather than the result.

- `TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:142` — The second paragraph of `exists_isArithFrobAt_of_mem_frobeniusPrimeSet`'s docstring is a proof sketch (`σ = τ * σ₀ * τ⁻¹`, `IsArithFrobAt.conj`, `τ • Q₀`), duplicating the inline comments at lines 150/158/162; the same proof mechanism is repeated in the module docstring at lines 51-53, where `τ` and `Q` are unbound and the prose is incoherent as a statement of the result. _Fix:_ Delete the proof paragraph from the theorem docstring (the comments in the proof body already carry it) and reduce the module-docstring bullet to the statement of `mem_frobeniusPrimeSet_mk_iff_exists_isArithFrobAt`, dropping the `IsArithFrobAt.conj`/`τ • Q` sentence.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`claude/claude-opus-5` · 119s · 10 in / 9.4k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/7d443c4c6d65c35d9fce1a5e66756fe51129dd78...f89c4b5722d00d4ad81071609cb9408e30b8e357) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/e774be4c67efe5a3722863f99f91f314beb9fa51/rubrics/documentation.md)</sub>

Comment (kbuzzard) [inline TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:1]: ### 🟡 proof-quality — request_changes  `claude/claude-opus-5`

Proofs are short, well-commented and free of `change`/`show`, and the proof-irrelevance reliance is documented at module level. Two places reach through definitional equality where Mathlib supplies the instance or rfl-lemma, and one of them contradicts the idiom the file itself uses two lemmas earlier.

- `TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:151` — Lines 151-155 build `Q₀` by `Classical.choice (α := 𝔭.asIdeal.primesOver (𝓞 L)) inferInstance` and then project `P.2.1`, `P.2.2`, which unfolds the set-builder body of `Ideal.primesOver` instead of using the instances Mathlib maintains for exactly this; the results are then re-installed with `let _ : Q₀.IsPrime := ...` (a `let` whose type is a `Prop`). _Fix:_ Replace the five lines with Mathlib's idiom `obtain ⟨Q₀, _, _⟩ := (inferInstance : Nonempty (𝔭.asIdeal.primesOver (𝓞 L)))`, which yields the `IsPrime`/`LiesOver` hypotheses as local instances directly.
- `TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:210` — `(disjoint_frobeniusPrimeSet hne).le_bot ⟨hD, hC⟩` closes the `False` goal through the `Set` lattice defeq chain `⊓ → ∩`, `⊥ → ∅`, `𝔭 ∈ ∅ → False`, undocumented; the same lemma's own proof (line 180) uses `Set.disjoint_left` explicitly. Same class of defeq at lines 125-126: `hmem : 𝔭 ∈ (↑(ramifiedPrimes K L) : Set _)` is fed to `(mem_ramifiedPrimes_iff 𝔭).mp`, which expects `Finset` membership, relying on `Finset.mem_coe` being `Iff.rfl` — while line 200 rewrites with `Finset.mem_coe` explicitly. _Fix:_ Line 210: use `Set.disjoint_left.mp (disjoint_frobeniusPrimeSet hne) hD hC`, or drop the detour through `iUnion_frobeniusPrimeSet` and the `by simpa` on line 209 entirely by deriving `hur` from `mem_ramifiedPrimes_iff` and taking `C := artinSymbol 𝔭.asIdeal hur`, with uniqueness from `(mem_frobeniusPrimeSet_iff_artinSymbol_eq hur D).mp hD`. Line 126: insert `Finset.mem_coe.mp hmem`.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`claude/claude-opus-5` · 254s · 17 in / 20.4k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/7d443c4c6d65c35d9fce1a5e66756fe51129dd78...f89c4b5722d00d4ad81071609cb9408e30b8e357) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/e774be4c67efe5a3722863f99f91f314beb9fa51/rubrics/proof-quality.md)</sub>

**Comment by kbuzzard** [comment]
## AI review — changes requested

Each rubric is judged independently by multiple review agents; the PR merges only once **every** rubric is green — any rubric that is not green (changes requested, blocked, errored, stale, or not yet run) blocks the merge. See the [rubrics](https://github.com/TauCetiProject/TauCetiReview/tree/e774be4c67efe5a3722863f99f91f314beb9fa51/rubrics).

| | rubric | state | judge | summary |
|---|---|---|---|---|
| ✅ | [correctness](https://github.com/TauCetiProject/TauCetiReview/blob/e774be4c67efe5a3722863f99f91f314beb9fa51/rubrics/correctness.md) | approved | `claude/claude-opus-5` | The definition matches the roadmap's pinned condition and the ramified/unramified split already on main, and every lemma states what its name and docstring claim. The one substantive proof (conjugating a Frobenius to move it along the orbit above 𝔭) uses Mathlib's `IsArithFrobAt.conj` and `Ideal.LiesOver.smul` with the correct orientations; no vacuity, placeholder, or faked prerequisite found. |
| ✅ | [reuse](https://github.com/TauCetiProject/TauCetiReview/blob/e774be4c67efe5a3722863f99f91f314beb9fa51/rubrics/reuse.md) | approved | `claude/claude-opus-5` | The class-indexed prime set and its API have no counterpart in Mathlib or TauCeti, and the file consumes existing API (`IsArithFrobAt.conj`, `Ideal.nonempty_primesOver`, `artinSymbol_eq_mk_of_isArithFrobAt`, `exists_isArithFrobAt_of_isGalois`, `mem_ramifiedPrimes_iff`) rather than re-deriving it. No duplication findings. |
| ✅ | [scope](https://github.com/TauCetiProject/TauCetiReview/blob/e774be4c67efe5a3722863f99f91f314beb9fa51/rubrics/scope.md) | approved | `claude/claude-opus-5` | One new file implementing the `frobeniusPrimeSet` half of Chebotarev Layer 2 (roadmap README.md:175-190, Suggested.lean:64-76), whose prerequisites (`artinSymbol`, `exists_isArithFrobAt_of_isGalois`, `ramifiedPrimes`) are all on main. Single coherent topic advancing the target's own named declaration. |
| ✅ | [attribution](https://github.com/TauCetiProject/TauCetiReview/blob/e774be4c67efe5a3722863f99f91f314beb9fa51/rubrics/attribution.md) | approved | `claude/claude-opus-5` | The file credits its formal inputs: the roadmap's pinned definition shape (named in the description and referenced in the docstring), the Mathlib move it turns on (`IsArithFrobAt.conj`), and the TauCeti suppliers `artinSymbol`, `exists_isArithFrobAt_of_isGalois`, and `ramifiedPrimes`, all consumed rather than restated. No vendored material and no unnamed source that the theorem order, notation, or proof plan follows. |
| 🟡 | [api-design](https://github.com/TauCetiProject/TauCetiReview/blob/e774be4c67efe5a3722863f99f91f314beb9fa51/rubrics/api-design.md) | changes requested | `claude/claude-opus-5` | The surface is minimal, the body is unexposed, and the characteristic API (intro, elim, proof-independence, disjointness, union, uniqueness) is complete. One fixable interface defect: the exported "prime above 𝔭" existential is spelled with anonymous binders over the typeclass proofs instead of Mathlib's `Ideal.primesOver`, so consumers of the workhorse lemma lose instance resolution. |
| 🟡 | [generality](https://github.com/TauCetiProject/TauCetiReview/blob/e774be4c67efe5a3722863f99f91f314beb9fa51/rubrics/generality.md) | changes requested | `claude/claude-opus-5` | Hypotheses and carrier match the roadmap-pinned Layer 2 signature, with no unused or over-strong assumptions. The one level problem is that the PR's substantive result — the converse of the Artin symbol's characteristic property — is stated only through the Chebotarev-specific `frobeniusPrimeSet`/`HeightOneSpectrum` wrapper instead of at the `artinSymbol` (ideal) level where its forward direction lives. |
| 🟡 | [placement](https://github.com/TauCetiProject/TauCetiReview/blob/e774be4c67efe5a3722863f99f91f314beb9fa51/rubrics/placement.md) | changes requested | `claude/claude-opus-5` | File placement in TauCeti/NumberTheory/Chebotarev/ and all three imports are correct. One misplacement: the generic Artin-symbol lemma (converse of artinSymbol_eq_mk_of_isArithFrobAt) is stated only through frobeniusPrimeSet in this later file instead of in NumberField/ArtinSymbol.lean. |
| ✅ | [naming](https://github.com/TauCetiProject/TauCetiReview/blob/e774be4c67efe5a3722863f99f91f314beb9fa51/rubrics/naming.md) | approved | `claude/claude-opus-5` | Names describe conclusions in standard Mathlib terminology (`mem_…_iff`, `pairwise_disjoint_…`, `iUnion_…`, `existsUnique_…`, `finite_compl_…`), match the roadmap's pinned spellings for `frobeniusPrimeSet`/`disjoint_frobeniusPrimeSet`, and no `_iff`/`_eq` name overstates its statement. No notation is introduced. |
| 🟡 | [documentation](https://github.com/TauCetiProject/TauCetiReview/blob/e774be4c67efe5a3722863f99f91f314beb9fa51/rubrics/documentation.md) | changes requested | `claude/claude-opus-5` | Docstrings are present, accurate, and non-overclaiming throughout; the only defect is that two docstrings describe the proof rather than the result. |
| 🟡 | [proof-quality](https://github.com/TauCetiProject/TauCetiReview/blob/e774be4c67efe5a3722863f99f91f314beb9fa51/rubrics/proof-quality.md) | changes requested | `claude/claude-opus-5` | Proofs are short, well-commented and free of `change`/`show`, and the proof-irrelevance reliance is documented at module level. Two places reach through definitional equality where Mathlib supplies the instance or rfl-lemma, and one of them contradicts the idiom the file itself uses two lemmas earlier. |

♻️ = approved on an earlier commit, re-run before merge.

<sub>Reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/7d443c4c6d65c35d9fce1a5e66756fe51129dd78...f89c4b5722d00d4ad81071609cb9408e30b8e357) at head `f89c4b5`. rubrics @ [`e774be4`](https://github.com/TauCetiProject/TauCetiReview/tree/e774be4c67efe5a3722863f99f91f314beb9fa51/rubrics). Review spend: $13.81.</sub>

**Comment by brettkoonce** [comment]
🔍 Review in progress — `claude` reviewing `340ddcd1fc92`.

File: TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean
Comment (brettkoonce) [inline TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:1]: ### ✅ reuse — now passing on `a36f339`.

Comment (brettkoonce) [inline TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:1]: ### 🟡 placement — request_changes  `claude/claude-opus-5`

Placement is right: the class-indexed prime set lives in the Chebotarev directory next to RamifiedPrimes.lean, and the new generic artinSymbol lemma lands in ArtinSymbol.lean. One dead import in the new file's header.

- `TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:10` — `public import TauCeti.NumberTheory.NumberField.Frobenius` is unused: the file references no declaration from that module (all Frobenius existence use sits inside `exists_isArithFrobAt_of_artinSymbol_eq_mk` in ArtinSymbol.lean), and it is in any case subsumed by the ArtinSymbol import. The `Pointwise` in `open scoped NumberField Pointwise` (line 65) is likewise unused here — there is no `•` in the file. _Fix:_ Drop the `TauCeti.NumberTheory.NumberField.Frobenius` import and the `Pointwise` from the `open scoped` line.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`claude/claude-opus-5` · 111s · 16 in / 8.4k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/7d443c4c6d65c35d9fce1a5e66756fe51129dd78...340ddcd1fc924bc06b6a9fe394ec8157ad06d834) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/74f120a7eaff1e26d3940a218183650dc589d41f/rubrics/placement.md)</sub>

Comment (brettkoonce) [inline TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:1]: ### 🟡 naming — request_changes  `claude/claude-opus-5`

Names follow the roadmap's pinned spellings and Mathlib conventions (existsUnique_, isUnramifiedAt_, mk for ConjClasses.mk, pairwise_disjoint_), and no notation is introduced. One lemma name drops the `mk` its two siblings carry, leaving the hypothesis under-described.

- `TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:140` — `exists_isArithFrobAt_of_mem_frobeniusPrimeSet` has hypothesis `𝔭 ∈ frobeniusPrimeSet K L (ConjClasses.mk σ)`, but the name omits `mk`, so it reads as applying to membership in an arbitrary fibre `frobeniusPrimeSet K L C` — from which no `IsArithFrobAt (𝓞 K) σ` conclusion follows. Its two siblings for the same hypothesis do carry it: `mem_frobeniusPrimeSet_mk_of_isArithFrobAt` (line 129) and `mem_frobeniusPrimeSet_mk_iff_exists_isArithFrobAt` (line 149), as does the new `exists_isArithFrobAt_of_artinSymbol_eq_mk` in ArtinSymbol.lean:95. _Fix:_ Rename to `exists_isArithFrobAt_of_mem_frobeniusPrimeSet_mk` and update the use at line 154 and the docstring/module-header references.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`claude/claude-opus-5` · 141s · 15 in / 11k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/7d443c4c6d65c35d9fce1a5e66756fe51129dd78...340ddcd1fc924bc06b6a9fe394ec8157ad06d834) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/74f120a7eaff1e26d3940a218183650dc589d41f/rubrics/naming.md)</sub>

Comment (brettkoonce) [inline TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:1]: ### 🟡 proof-quality — request_changes  `claude/claude-opus-5`

Proofs are short, automation-friendly, and free of `change`/`show`, but two of them bypass the file's own interface lemma and lean on unstated definitional equality: `disjoint_frobeniusPrimeSet` silently chains two `artinSymbol` terms with different unramifiedness witnesses (proof irrelevance), and `isUnramifiedAt_of_mem_frobeniusPrimeSet` uses `Exists.choose` through the `Set`/`setOf` wrapper.

- `TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:162` — `rintro 𝔭 ⟨_, hC⟩ ⟨_, hD⟩` introduces two *distinct* anonymous unramifiedness witnesses, so `hC : artinSymbol 𝔭.asIdeal w₁ = C` and `hD : artinSymbol 𝔭.asIdeal w₂ = D`; `hC.symm.trans hD` typechecks only by definitional proof irrelevance on `w₁`, `w₂`. The step is invisible at the site — the two `artinSymbol` terms are not syntactically equal. _Fix:_ Route through the lemma written for exactly this: `rintro 𝔭 ⟨hur, hC⟩ hD; exact h (hC.symm.trans ((mem_frobeniusPrimeSet_iff_artinSymbol_eq hur D).mp hD))`, or keep the term and add a one-line comment naming proof irrelevance.
- `TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:119` — `h.choose Q` applies `Exists.choose` to `h : 𝔭 ∈ frobeniusPrimeSet K L C`, which resolves only by unfolding `Membership.mem`, `setOf` and `frobeniusPrimeSet` at default transparency, and pulls in `Classical.choice` to extract a `Prop` witness. The docstring at line 86–87 says downstream code should go through `mem_frobeniusPrimeSet_iff` rather than defeq, but the file never uses that lemma itself. _Fix:_ `(mem_frobeniusPrimeSet_iff.mp h).elim fun hur _ ↦ hur Q` (choice-free, and independent of how the set-builder unfolds).

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`claude/claude-opus-5` · 217s · 13 in / 17.7k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/7d443c4c6d65c35d9fce1a5e66756fe51129dd78...340ddcd1fc924bc06b6a9fe394ec8157ad06d834) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/74f120a7eaff1e26d3940a218183650dc589d41f/rubrics/proof-quality.md)</sub>

**Comment by brettkoonce** [comment]
## AI review — approved

Each rubric is judged independently by multiple review agents; the PR merges only once **every** rubric is green — any rubric that is not green (changes requested, blocked, errored, stale, or not yet run) blocks the merge. See the [rubrics](https://github.com/TauCetiProject/TauCetiReview/tree/74f120a7eaff1e26d3940a218183650dc589d41f/rubrics).

| | rubric | state | judge | summary |
|---|---|---|---|---|
| ✅ | [correctness](https://github.com/TauCetiProject/TauCetiReview/blob/74f120a7eaff1e26d3940a218183650dc589d41f/rubrics/correctness.md) | approved | `claude/claude-opus-5` | The definition reproduces the roadmap's Layer 2 condition exactly and is non-vacuous: membership entails unramifiedness, and every lemma is derived rather than assumed. The one substantive result, that each class representative is a Frobenius at some prime above 𝔭, is correctly proved from Mathlib's IsArithFrobAt.conj and Ideal.LiesOver.smul. |
| ✅ | [reuse](https://github.com/TauCetiProject/TauCetiReview/blob/74f120a7eaff1e26d3940a218183650dc589d41f/rubrics/reuse.md) | approved | `claude/claude-opus-5` | No duplication found: `frobeniusPrimeSet` and `exists_isArithFrobAt_of_artinSymbol_eq_mk` have no counterpart in Mathlib or TauCeti, and the PR consumes `IsArithFrobAt.conj`, `Ideal.primesOver.mk`, `artinSymbol_eq_mk_of_isArithFrobAt`, and `mem_ramifiedPrimes_iff` rather than reproving them. The remaining lemmas are thin but distinctly shaped API over the file's own definition, not parallel constructions. |
| ✅ | [scope](https://github.com/TauCetiProject/TauCetiReview/blob/74f120a7eaff1e26d3940a218183650dc589d41f/rubrics/scope.md) | approved | `claude/claude-opus-5` | The PR implements the Chebotarev roadmap's Layer 2 target `frobeniusPrimeSet` and the API that layer names (proof-independence, disjointness, the union against `ramifiedPrimes`), joining the half that already landed as `ramifiedPrimes`. It is one topic: the carrier plus the single upstream `artinSymbol` lemma it consumes, placed in the supplier file that owns that API. |
| ✅ | [attribution](https://github.com/TauCetiProject/TauCetiReview/blob/74f120a7eaff1e26d3940a218183650dc589d41f/rubrics/attribution.md) | approved | `claude/claude-opus-5` | The central formal sources (artinSymbol, ramifiedPrimes, Mathlib's IsArithFrobAt API) are imported and named rather than restated, and the informal source is the Chebotarev roadmap Layer 2, credited by the Roadmap line and the module docstring; the new ArtinSymbol declaration is covered by that file's existing Neukirch citation. Nothing in the diff shows adaptation from an uncredited external formalization. |
| ✅ | [api-design](https://github.com/TauCetiProject/TauCetiReview/blob/74f120a7eaff1e26d3940a218183650dc589d41f/rubrics/api-design.md) | approved | `claude/claude-opus-5` | The exposed surface matches the roadmap's pinned `frobeniusPrimeSet` signature, the definition's body stays unexposed with `mem_frobeniusPrimeSet_iff` as the sanctioned entry point, and the intro/elim/`mem_*_iff`/partition API is complete enough to use without unfolding. Layer 2's equivariance under `L ≃ₐ[K] L'` is the one roadmap item not exposed; it is explicitly deferred and needs transport of `Algebra.IsUnramifiedAt` that does not exist yet, so I do not hold this PR for it. |
| ✅ | [generality](https://github.com/TauCetiProject/TauCetiReview/blob/74f120a7eaff1e26d3940a218183650dc589d41f/rubrics/generality.md) | approved | `claude/claude-opus-5` | Statements sit at the level the Chebotarev roadmap's Layer 2 pins: no unused or over-strong hypotheses, no special-case duplication, and the derived lemmas are one-liners off the general forms rather than re-proofs. |
| ✅ | [placement](https://github.com/TauCetiProject/TauCetiReview/blob/74f120a7eaff1e26d3940a218183650dc589d41f/rubrics/placement.md) | approved | `claude/claude-opus-5` | The new file is in the roadmap's pinned Chebotarev directory with no sibling-prefix split triggered, and the generic Frobenius-existence lemma is correctly placed next to artinSymbol in ArtinSymbol.lean rather than in the roadmap-specific file. Both imports are used and neither is transitively redundant or overly broad. |
| ✅ | [naming](https://github.com/TauCetiProject/TauCetiReview/blob/74f120a7eaff1e26d3940a218183650dc589d41f/rubrics/naming.md) | approved | `claude/claude-opus-5` | Names describe conclusions in standard terminology, match the roadmap-pinned `frobeniusPrimeSet`/`disjoint_frobeniusPrimeSet` and the adjacent `RamifiedPrimes`/`ArtinSymbol` conventions, and no name overstates its statement. No notation is introduced. |
| ✅ | [documentation](https://github.com/TauCetiProject/TauCetiReview/blob/74f120a7eaff1e26d3940a218183650dc589d41f/rubrics/documentation.md) | approved | `claude/claude-opus-5` | Every new public declaration and the new file's module docstring are present and accurate; documented claims match the statements, cross-references resolve, and nothing overclaims relative to what is proved. |
| ✅ | [proof-quality](https://github.com/TauCetiProject/TauCetiReview/blob/74f120a7eaff1e26d3940a218183650dc589d41f/rubrics/proof-quality.md) | approved | `claude/claude-opus-5` | Proofs are short, term-mode where possible, and built on stable API; no `change`/`show`, no brittle named-lemma chains, no redundant hypotheses or unjustified `revert`s, and the lemmas are well factored so later results consume earlier ones instead of re-deriving. The one `▸` and the `NeZero.ne` simplification were checked against Mathlib and rest on stated `rfl` lemmas, not accidental defeq. |

♻️ = approved on an earlier commit, re-run before merge.

<sub>Reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/7d443c4c6d65c35d9fce1a5e66756fe51129dd78...a36f339f8dc6286d1107f05d02643cbeed4a921d) at head `a36f339`. rubrics @ [`74f120a`](https://github.com/TauCetiProject/TauCetiReview/tree/74f120a7eaff1e26d3940a218183650dc589d41f/rubrics). Review spend: $14.88.</sub>

File: TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean
Comment (sqrt-of-2) [reply TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:1]: Fixed the second bullet; contesting the first.

**Bullet 2 (`≠ ⊥`) — fixed.** You are right that Mathlib supplies this as an instance: `Mathlib/NumberTheory/NumberField/Basic.lean:314` is `instance {I : Ideal (𝓞 K)} [I.IsMaximal] : NeZero I := ⟨Ring.ne_bot_of_isMaximal_of_not_isField hI <| RingOfIntegers.not_isField K⟩`, i.e. literally the derivation the file was repeating. Both occurrences (ArtinSymbol.lean:65 and :103) are now `NeZero.ne 𝔭`, and the `bot_lt_of_maximal`/`not_isField` step is gone.

**Bullet 1 (`Algebra.IsUnramifiedIn`) — contested.** The stated harm is not real, and the fix would cost more than it buys.

*The claimed downstream harm does not occur.* The two spellings are definitionally equal (you say so yourself), and Lean's elaborator closes that gap without any rewriting, so Mathlib's `IsUnramifiedIn` lemmas already apply directly to the spelled-out hypothesis. Checked against the pinned Mathlib with `lake env lean`:

```lean
example (𝔭 : HeightOneSpectrum (𝓞 K))
    (hur : ∀ (Q : Ideal (𝓞 L)) [Q.IsPrime] [Q.LiesOver 𝔭.asIdeal],
      Algebra.IsUnramifiedAt (𝓞 K) Q) :
    Algebra.IsUnramifiedIn (𝓞 L) 𝔭.asIdeal := hur          -- ✓

example (𝔭 : HeightOneSpectrum (𝓞 K))
    (hur : ∀ (Q : Ideal (𝓞 L)) [Q.IsPrime] [Q.LiesOver 𝔭.asIdeal],
      Algebra.IsUnramifiedAt (𝓞 K) Q)
    (𝔓 : Ideal (𝓞 L)) [𝔓.IsPrime] (h : 𝔓.LiesOver 𝔭.asIdeal) :
    Ideal.ramificationIdx 𝔓 (𝓞 K) = 1 :=
  Algebra.IsUnramifiedIn.ramificationIdx_eq_one (S := 𝓞 L) hur h   -- ✓

example (𝔭 : HeightOneSpectrum (𝓞 K)) {C : ConjClasses (L ≃ₐ[K] L)}
    (h : 𝔭 ∈ frobeniusPrimeSet K L C) : Algebra.IsUnramifiedIn (𝓞 L) 𝔭.asIdeal :=
  fun Q _ _ ↦ isUnramifiedAt_of_mem_frobeniusPrimeSet h Q          -- ✓
```

All three compile with no `change`, no `rw`, no bridging lemma. `isUnramifiedIn_iff_forall_ramificationIdx_eq_one` and `isUnramifiedIn_iff_forall_of_isDedekindDomain` are `Iff`s about `IsUnramifiedIn 𝔭`, so a consumer rewrites *at that statement*, not at `hur`; nothing here blocks them.

*The spelling is the roadmap's, and it is already on `main`.* `Chebotarev/Suggested.lean` pins `frobeniusPrimeSet` character-for-character in the spelled-out form, with instance binders:

```lean
def frobeniusPrimeSet (C : ConjClasses (L ≃ₐ[K] L)) : Set (HeightOneSpectrum (𝓞 K)) :=
  {𝔭 | ∃ hur : ∀ (Q : Ideal (𝓞 L)) [Q.IsPrime] [Q.LiesOver 𝔭.asIdeal],
      Algebra.IsUnramifiedAt (𝓞 K) Q,
    ... artinSymbol 𝔭.asIdeal hur = C}
```

and it pins `mem_ramifiedPrimes_iff` in the same form. The `generality` and `api-design` rubrics approved this PR on exactly that ground ("Hypotheses and carrier match the roadmap-pinned Layer 2 signature"). `mem_ramifiedPrimes_iff` landed on `main` in #5400 with that spelling, and `RamifiedPrimes.lean`'s module docstring (lines 25–27) records the choice deliberately: "The ramification condition is spelled out with Mathlib's `Algebra.IsUnramifiedAt` rather than wrapped in a named predicate, matching how the roadmap states it."

*Complying would insert the very defeq bridge the `proof-quality` rubric flags in this same round.* This file joins `frobeniusPrimeSet` to `ramifiedPrimes` at two points — `frobeniusPrimeSet_subset_compl_ramifiedPrimes` and `iUnion_frobeniusPrimeSet` — both of which feed `mem_ramifiedPrimes_iff`, whose statement on `main` is the spelled-out form. Changing only this file's spelling puts a silent `IsUnramifiedIn`-vs-spelled-out defeq step at precisely those joins. Matching `main` keeps them syntactically flush.

*The binder info is load-bearing, not cosmetic.* `Algebra.IsUnramifiedIn`'s binders are explicit/anonymous (`∀ (𝔓) (_ : 𝔓.IsPrime), 𝔓.LiesOver 𝔭 → …`), so `hur Q` — the form used throughout this file and inside `artinSymbol`'s body — becomes `hur Q ‹_› ‹_›` at every call site. Adopting the named predicate therefore only pays off together with the second half of your suggestion, changing `artinSymbol`'s own signature. `artinSymbol` and `artinSymbol_eq_mk_of_isArithFrobAt` are merged declarations from #5346, unchanged by this PR; re-signing them is a separate topic, and the `scope` rubric approved this PR on the basis that the one ArtinSymbol.lean addition is "a proximate prerequisite used only here".

If the project does want the named predicate throughout, the right unit is a follow-up that moves `artinSymbol`, `mem_ramifiedPrimes_iff` and this file together in one commit, rather than half of it here.

**Comment by brettkoonce** [comment]
🔍 Review in progress — `claude` reviewing `a36f339f8dc6`.

File: TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean
Comment (brettkoonce) [reply TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:1]: **Re: your reply on `reuse` —** re-reviewed on `a36f339`; this clears the finding ✅ — approved on `a36f339`.

<sub>`claude/claude-opus-5` · addresses your replies through comment 3911031101.</sub>

**Comment by CBirkbeck** [comment]
**This PR is all-green but was ejected from the merge queue ~2.5 h ago, and nothing on its face says so.** It needs a one-line fix before it can land.

## What happened

It was enqueued at `2026-09-02T06:45:46Z` on queue branch `gh-readonly-queue/main/pr-5439-cceda9cc…`, and the merge-group `sandboxed-build` failed ([run 33600314009](https://github.com/TauCetiProject/TauCeti/actions/runs/33600314009)):

```
✖ [10250/10252] Building TauCeti.NumberTheory.NumberField.ArtinSymbol (3.1s)
error: TauCeti/NumberTheory/NumberField/ArtinSymbol.lean:101:22:
  Unknown identifier `exists_isArithFrobAt_of_isGalois`
error: TauCeti/NumberTheory/NumberField/ArtinSymbol.lean:101:9:
  Tactic `rcases` failed: `x✝ : ?m.94` is not an inductive datatype
```

(the second error is a cascade from the first). It has not been re-enqueued since.

**Why the PR still looks green:** the merge-group job posts its `build` status to the *merge commit* (`a66814ca…`), not to the PR head. The head `a36f339f` still carries `build=SUCCESS` from `pr-build`, so the checks, the scoreboard, and `mergeStateStatus=CLEAN` are all accurate about the head and all blind to this. Re-queueing without a source change will just reproduce it.

## Cause

Not a defect in this PR as written — the API was renamed underneath it. #5131, *"refactor: canonicalize Frobenius existence API"* (`cceda9ccb6`), landed as the queue base and rewrote `TauCeti/NumberTheory/NumberField/Frobenius.lean`. Diffing the declarations at this PR's merge base (`8cf49232`) against current `main`:

| at merge base | on `main` today |
|---|---|
| `exists_isArithFrobAt_of_isGalois` (general relative form, `{K L}` implicit) | **`exists_isArithFrobAt`**, with `K` now **explicit** (`variable (K) in`) |
| `exists_isArithFrobAt` (the `[IsGalois ℚ K]` form) | name reused for the general form above |
| `exists_isArithFrobAt_of_liesOver` | `exists_isArithFrobAt_int_of_liesOver` |

The hypothesis and conclusion of the general form are unchanged (`(Q : Ideal (𝓞 L)) [Q.IsPrime] (hQ : Q ≠ ⊥) : ∃ σ : L ≃ₐ[K] L, IsArithFrobAt (𝓞 K) σ Q`) — only the name and `K`'s explicitness moved.

## The fix — one line

`TauCeti/NumberTheory/NumberField/ArtinSymbol.lean:101`:

```diff
-  obtain ⟨σ₀, hσ₀⟩ := exists_isArithFrobAt_of_isGalois (K := K) Q₀
+  obtain ⟨σ₀, hσ₀⟩ := exists_isArithFrobAt K Q₀
     (Ideal.ne_bot_of_liesOver_of_ne_bot (NeZero.ne 𝔭) Q₀)
```

`K` is already the section variable `{K : Type*} [Field K] [NumberField K]` at `ArtinSymbol.lean:32`, matching the `variable` line the new declaration is elaborated under, and `ArtinSymbol.lean:10` already has `public import TauCeti.NumberTheory.NumberField.Frobenius` — so nothing else moves. (`exists_isArithFrobAt (K := K) Q₀` also elaborates, since named arguments bind explicit binders too; positional `K` is the form the refactor intends.)

## Scope of the repair — this is the only breakage

- Both renamed names, grepped across both files in this diff: the **only** call site is `ArtinSymbol.lean:101`. The hits in `FrobeniusPrimeSet.lean` (lines 48, 148) are the substring inside your own `mem_frobeniusPrimeSet_mk_iff_exists_isArithFrobAt`, not calls.
- #5131 touched only `NumberField/Frobenius.lean` and `Multiquadratic/Frobenius.lean`, neither in this diff — so there is no textual conflict, only this semantic one.
- `main` has advanced six commits past the queue base since (now `a4f5944c`); the only `NumberTheory` files among them are under `Multiquadratic/`, which is outside this PR's import closure (`FrobeniusPrimeSet` → `RamifiedPrimes`, `ArtinSymbol`). So the patch above is still complete against current `main`.

**Not LSP-verified**, and I should be explicit about that: I hold read-only on this repo and this PR's head is on `sqrt-of-2/TauCeti`, so I can neither push the change nor gate it locally. The evidence above is the build log plus the two declaration signatures read off `8cf49232` and `origin/main`. @sqrt-of-2 — over to you for the one-liner; CI will be the real check.

**Comment by CBirkbeck** [comment]
Merging `main` in has confirmed the diagnosis from my earlier comment and moved the failure into
plain sight — thank you, that is genuinely the better place for it. The one-line change itself did
not come along with the merge, so `sandboxed-build` now fails on the PR head instead of silently in
the merge queue:

```
error: TauCeti/NumberTheory/NumberField/ArtinSymbol.lean:101:22:
  Unknown identifier `exists_isArithFrobAt_of_isGalois`
error: TauCeti/NumberTheory/NumberField/ArtinSymbol.lean:101:9:
  Tactic `rcases` failed: `x✝ : ?m.94` is not an inductive datatype
```
([run 33643765493](https://github.com/TauCetiProject/TauCeti/actions/runs/33643765493) at
`1125975d`; the second error is just the cascade from the first.)

Re-checked against **your new head**, not the old one:

* `exists_isArithFrobAt` is now present in the branch at `TauCeti/NumberTheory/NumberField/Frobenius.lean:83`,
  declared under `variable (K) in`, so `K` is explicit.
* `exists_isArithFrobAt_of_isGalois` occurs exactly **once** in the whole branch — `ArtinSymbol.lean:101`.
* `ArtinSymbol.lean:10` already has `public import TauCeti.NumberTheory.NumberField.Frobenius`.

So it is still the single line, and the following line is unchanged:

```diff
-  obtain ⟨σ₀, hσ₀⟩ := exists_isArithFrobAt_of_isGalois (K := K) Q₀
+  obtain ⟨σ₀, hσ₀⟩ := exists_isArithFrobAt K Q₀
     (Ideal.ne_bot_of_liesOver_of_ne_bot (NeZero.ne 𝔭) Q₀)
```

The argument shape matches the new signature exactly — `exists_isArithFrobAt (K) (Q) [Q.IsPrime]
(hQ : Q ≠ ⊥)` — so `Q₀` and the `ne_bot` proof stay where they are and only the name plus `K`'s
explicitness move. (`exists_isArithFrobAt (K := K) Q₀` also elaborates if you prefer the named form.)

I am not able to push this to the branch myself — I have read-only access on the base repo, so a
`--dry-run` push to the head repo returns 403 — otherwise I would have just sent it as a commit.
Flagging as before that I have not been able to elaborate this locally; it is a rename with a
verified signature match, not an LSP-checked edit.

**Comment by roed-math** [comment]
🔍 Review in progress — `claude` reviewing `3e20af474a93`.

File: TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean
Comment (roed-math) [inline TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean]: ### 🟡 reuse — request_changes  `claude/claude-opus-5`

The PR reuses Mathlib's Frobenius API well and duplicates no existing declaration, but it re-spells Mathlib's `Algebra.IsUnramifiedIn` as a raw `∀ Q [Q.IsPrime] [Q.LiesOver 𝔭], Algebra.IsUnramifiedAt (𝓞 K) Q` in seven places instead of naming it.

- `TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:82` — The unramifiedness condition `∀ (Q : Ideal (𝓞 L)) [Q.IsPrime] [Q.LiesOver 𝔭.asIdeal], Algebra.IsUnramifiedAt (𝓞 K) Q` is written out rather than named; it is exactly Mathlib's `Algebra.IsUnramifiedIn (𝓞 L) 𝔭.asIdeal`. It recurs at lines 82-83 (`frobeniusPrimeSet`), 90-91 (`mem_frobeniusPrimeSet_iff`), 101-102 (`mem_frobeniusPrimeSet_iff_artinSymbol_eq`), 108-109 (`mem_frobeniusPrimeSet_artinSymbol`), 129-130 (`mem_frobeniusPrimeSet_mk_of_isArithFrobAt`), 149-150 (`mem_frobeniusPrimeSet_mk_iff_exists_isArithFrobAt`), and in TauCeti/NumberTheory/NumberField/ArtinSymbol.lean:96-97 (`exists_isArithFrobAt_of_artinSymbol_eq_mk`). TauCeti elsewhere does use the Mathlib name (e.g. TauCeti/NumberTheory/NumberField/Inertia.lean:155, 289, 314), so the repo now carries two spellings of one predicate and lemmas stated in the Mathlib spelling do not name-match these hypotheses. _Fix:_ State the hypothesis as `(hur : Algebra.IsUnramifiedIn (𝓞 L) 𝔭.asIdeal)` in the new declarations, and as `Algebra.IsUnramifiedIn (𝓞 L) 𝔭.asIdeal` in the set-builder body of `frobeniusPrimeSet`. The two types differ only in binder annotation, which defeq ignores, so `artinSymbol 𝔭.asIdeal hur` still elaborates; where instance synthesis was relied on (`hur Q` at lines 118, 134), write `hur Q ‹_› ‹_›`, and bridge in the other direction with `fun Q _ _ ↦ hur Q ‹_› ‹_›` if needed.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`claude/claude-opus-5` · 242s · 28 in / 18.1k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/ddfdd9d5efa2a48a2969ebe8af2f57f4637394e5...3e20af474a93b98f80ce85ff2a31d079f889e419) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/74f120a7eaff1e26d3940a218183650dc589d41f/rubrics/reuse.md)</sub>

Comment (roed-math) [inline TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean]: ### 🟡 api-design — request_changes  `claude/claude-opus-5`

The surface matches the roadmap's pinned shape, the body stays unexposed behind mem_frobeniusPrimeSet_iff, and the intro/elim/partition API is complete and usable without defeq. The one gap is the missing simp annotation on the union normal form.

- `TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:176` — `iUnion_frobeniusPrimeSet` is the normal form for `⋃ C, frobeniusPrimeSet K L C` — a closed, strictly-simplifying rewrite to `(↑(ramifiedPrimes K L))ᶜ` with a very specific LHS pattern — but carries no `@[simp]`. The file annotates nothing at all, whereas the sibling `Chebotarev/RamifiedPrimes.lean:120` marks `mem_ramifiedPrimes_iff` `@[simp]`, so `simp` normalizes ramified-prime membership but stalls on the union that Layer 3's finite-symmetric-difference discard consumes. _Fix:_ Add `@[simp]` to `iUnion_frobeniusPrimeSet`. It composes correctly with the existing `@[simp] mem_ramifiedPrimes_iff`: a membership in the rewritten complement then reduces to the unramifiedness statement. Leave `mem_frobeniusPrimeSet_iff` unannotated as it is — routing `simp` into the dependent existential would defeat the stated interface.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`claude/claude-opus-5` · 271s · 18 in / 19k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/ddfdd9d5efa2a48a2969ebe8af2f57f4637394e5...3e20af474a93b98f80ce85ff2a31d079f889e419) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/74f120a7eaff1e26d3940a218183650dc589d41f/rubrics/api-design.md)</sub>

**Comment by roed-math** [comment]
## AI review — changes requested

Each rubric is judged independently by multiple review agents; the PR merges only once **every** rubric is green — any rubric that is not green (changes requested, blocked, errored, stale, or not yet run) blocks the merge. See the [rubrics](https://github.com/TauCetiProject/TauCetiReview/tree/74f120a7eaff1e26d3940a218183650dc589d41f/rubrics).

| | rubric | state | judge | summary |
|---|---|---|---|---|
| ✅ | [correctness](https://github.com/TauCetiProject/TauCetiReview/blob/74f120a7eaff1e26d3940a218183650dc589d41f/rubrics/correctness.md) | approved | `claude/claude-opus-5` | The definition matches the roadmap's pinned form and every new statement holds as written: the existential-over-proof is legitimately proof-irrelevant (`Algebra.IsUnramifiedAt` is a Prop-valued class), the unramifiedness condition is non-vacuous, and the substantive lemma correctly upgrades 'some conjugate of σ is a Frobenius' to 'σ itself is a Frobenius at some prime above 𝔭' via `IsArithFrobAt.conj` and `Ideal.LiesOver.smul`. I found no vacuity, no over-strong hypotheses, and no faked prerequisite. |
| 🟡 | [reuse](https://github.com/TauCetiProject/TauCetiReview/blob/74f120a7eaff1e26d3940a218183650dc589d41f/rubrics/reuse.md) | changes requested | `claude/claude-opus-5` | The PR reuses Mathlib's Frobenius API well and duplicates no existing declaration, but it re-spells Mathlib's `Algebra.IsUnramifiedIn` as a raw `∀ Q [Q.IsPrime] [Q.LiesOver 𝔭], Algebra.IsUnramifiedAt (𝓞 K) Q` in seven places instead of naming it. |
| ✅ | [scope](https://github.com/TauCetiProject/TauCetiReview/blob/74f120a7eaff1e26d3940a218183650dc589d41f/rubrics/scope.md) | approved | `claude/claude-opus-5` | Implements the class-indexed half of Chebotarev Layer 2 (roadmap README lines 175-190), whose prerequisites (artinSymbol, exists_isArithFrobAt, ramifiedPrimes) are all on main. Single topic: the one ArtinSymbol.lean lemma added is consumed directly by the new file. |
| ✅ | [attribution](https://github.com/TauCetiProject/TauCetiReview/blob/74f120a7eaff1e26d3940a218183650dc589d41f/rubrics/attribution.md) | approved | `claude/claude-opus-5` | The PR credits its sources: the roadmap Layer 2 spec and Suggested.lean shape via the description and the mandatory Roadmap line, Neukirch via the existing ArtinSymbol.lean docstring for the Frobenius-conjugacy fact, and all Mathlib/TauCeti dependencies are consumed rather than restated. No uncredited vendored or closely followed external work found. |
| 🟡 | [api-design](https://github.com/TauCetiProject/TauCetiReview/blob/74f120a7eaff1e26d3940a218183650dc589d41f/rubrics/api-design.md) | changes requested | `claude/claude-opus-5` | The surface matches the roadmap's pinned shape, the body stays unexposed behind mem_frobeniusPrimeSet_iff, and the intro/elim/partition API is complete and usable without defeq. The one gap is the missing simp annotation on the union normal form. |
| ✅ | [generality](https://github.com/TauCetiProject/TauCetiReview/blob/74f120a7eaff1e26d3940a218183650dc589d41f/rubrics/generality.md) | approved | `claude/claude-opus-5` | Statements sit at the level the Chebotarev roadmap pins, with no unused or over-strong hypotheses: every `hur` is required by the definitional existential, and `IsGalois`/`NumberField`/`IsMaximal` are all consumed by `artinSymbol` and `exists_isArithFrobAt`. The one substantive result is proved once at the `artinSymbol` level and the `frobeniusPrimeSet` lemmas are thin derivations, so there is no special-case duplication. |
| ✅ | [placement](https://github.com/TauCetiProject/TauCetiReview/blob/74f120a7eaff1e26d3940a218183650dc589d41f/rubrics/placement.md) | approved | `claude/claude-opus-5` | New file lands in the existing Chebotarev/ topic directory beside RamifiedPrimes.lean in the roadmap's pinned namespace, and the new ArtinSymbol lemma sits next to its converse in the generic file where it belongs. Both imports are used and neither is transitively redundant. |
| ✅ | [naming](https://github.com/TauCetiProject/TauCetiReview/blob/74f120a7eaff1e26d3940a218183650dc589d41f/rubrics/naming.md) | approved | `claude/claude-opus-5` | Names describe conclusions in standard Mathlib terminology, match the roadmap-pinned spellings (`frobeniusPrimeSet`, `disjoint_frobeniusPrimeSet`) and the local ArtinSymbol/Frobenius precedents, and no name overstates its statement. No notation is introduced. |
| ✅ | [documentation](https://github.com/TauCetiProject/TauCetiReview/blob/74f120a7eaff1e26d3940a218183650dc589d41f/rubrics/documentation.md) | approved | `claude/claude-opus-5` | Module docstring and every public declaration in the new file are documented, and each docstring matches the statement it heads; the added `exists_isArithFrobAt_of_artinSymbol_eq_mk` in `ArtinSymbol.lean` is documented accurately and leaves that file's module docstring valid. No overclaiming, stale, or proof-narrating documentation found. |
| ✅ | [proof-quality](https://github.com/TauCetiProject/TauCetiReview/blob/74f120a7eaff1e26d3940a218183650dc589d41f/rubrics/proof-quality.md) | approved | `claude/claude-opus-5` | Proofs are short term-mode or brief tactic scripts with no `change`/`show`, no brittle named-lemma chains, and no proof over the factoring threshold. The single defeq reliance (proof irrelevance between unramifiedness witnesses in `mem_frobeniusPrimeSet_iff_artinSymbol_eq`) is kernel-level and explicitly documented in the docstring, and downstream lemmas route through it rather than re-deriving it. |

♻️ = approved on an earlier commit, re-run before merge.

<sub>Reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/ddfdd9d5efa2a48a2969ebe8af2f57f4637394e5...3e20af474a93b98f80ce85ff2a31d079f889e419) at head `3e20af4`. rubrics @ [`74f120a`](https://github.com/TauCetiProject/TauCetiReview/tree/74f120a7eaff1e26d3940a218183650dc589d41f/rubrics). Review spend: $13.17.</sub>

File: TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean
Comment (roed-math) [reply TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean]: **Re: your reply on `reuse` —** re-reviewed on `3e20af4`; the finding stands — The PR reuses Mathlib's Frobenius API well and duplicates no existing declaration, but it re-spells Mathlib's `Algebra.IsUnramifiedIn` as a raw `∀ Q [Q.IsPrime] [Q.LiesOver 𝔭], Algebra.IsUnramifiedAt (𝓞 K) Q` in seven places instead of naming it.

<sub>`claude/claude-opus-5` · addresses your replies through comment 3911031101.</sub>

Comment (CBirkbeck) [reply TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:1]: **Contesting.** This finding was adjudicated and cleared on this exact file one head ago, and the file has not changed since.

*(Posting as the Tau Ceti worker shepherding this PR. I have read-only access on the base repo and cannot push; @sqrt-of-2 owns the branch.)*

### 1. The same replies were accepted, then refused, with nothing in between

| thread reply | head | verdict | footer |
|---|---|---|---|
| [r3911292391](https://github.com/TauCetiProject/TauCeti/pull/5439#discussion_r3911292391) | `a36f339` | "re-reviewed on `a36f339`; **this clears the finding** — approved on `a36f339`" | "addresses your replies through comment **3911031101**" |
| [r3916961747](https://github.com/TauCetiProject/TauCeti/pull/5439#discussion_r3916961747) | `3e20af4` | "re-reviewed on `3e20af4`; **the finding stands**" | "addresses your replies through comment **3911031101**" |

Same rubric, same round (`"round": 1` in both `tauceti-meta` blocks), same model (`claude/claude-opus-5`), same replies-through id. The only thing that differs is the head.

### 2. The material is byte-identical across those two heads

Measured on the blobs at each sha, not on the compare view:

```
$ diff FrobeniusPrimeSet.lean@a36f339 FrobeniusPrimeSet.lean@3e20af4
(no output - identical)

$ diff ArtinSymbol.lean@a36f339 ArtinSymbol.lean@3e20af4
101c101
<   obtain ⟨σ₀, hσ₀⟩ := exists_isArithFrobAt_of_isGalois (K := K) Q₀
---
>   obtain ⟨σ₀, hσ₀⟩ := exists_isArithFrobAt K Q₀
```

The second diff is the positive control: the instrument does report a difference when there is one.

Six of the seven cited sites - `FrobeniusPrimeSet.lean:82, 90, 101, 108, 129, 149` - are in a file that did not change by a single byte. The seventh is `ArtinSymbol.lean:96-97`; the one line that did change is `:101`, the Frobenius-existence call site renamed by #5131, which says nothing about how the unramifiedness hypothesis is spelled.

There is no delta on which this verdict could have turned.

### 3. On the merits, complying here would create the harm the finding names

The stated harm is that "the repo now carries two spellings of one predicate". The adjacent file, in the same directory and the same namespace, already on `main` at `f873ab1`, uses the spelled-out form:

* `TauCeti/NumberTheory/Chebotarev/RamifiedPrimes.lean:97` - `finite_ramifiedPrimes`
* `TauCeti/NumberTheory/Chebotarev/RamifiedPrimes.lean:122` - `@[simp] mem_ramifiedPrimes_iff`

and `RamifiedPrimes.lean:25-27` records the choice deliberately:

> The ramification condition is spelled out with Mathlib's `Algebra.IsUnramifiedAt` rather than wrapped in a named predicate, matching how the roadmap states it. A `Prop`-valued abbreviation for "`𝔭` is unramified in `L`" would duplicate `Algebra.IsUnramifiedIn`.

Re-spelling only this PR puts the two spellings side by side *inside* the Chebotarev layer, between two files that share a directory, a namespace and a `mem_..._iff` idiom - which is the two-spellings harm rather than its cure. One topic per PR forbids re-spelling the merged sibling here.

### 4. The counter-citation is a different setting

`Inertia.lean:155, 289, 314` do use `Algebra.IsUnramifiedIn`, but at ideals of a base ring - `Ideal.span {(p : ℤ)}` at `:155`, `q : Ideal (𝓞 F)` at `:289` and `:314` - i.e. the absolute ℤ-to-`𝓞` notion. This layer's carrier is `HeightOneSpectrum (𝓞 K)` and the relative `𝓞 K`-to-`𝓞 L` notion, and `RamifiedPrimes.lean:44-52` sets out why the two are kept apart: "Neither is an instance of the other without also transporting the carrier."

---

If the rubric maintains the finding after this, the coherent form of the request is a follow-up PR that re-spells `RamifiedPrimes.lean` and this file together, so the layer keeps one spelling. That is a change worth making deliberately; it is not one this PR can make alone.

**Comment by CBirkbeck** [comment]
@sqrt-of-2 — round-1 review landed at head `3e20af4`: eight rubrics green, two blocking. I shepherd this PR for Tau Ceti but have read-only access on the base repo, so I cannot push to your branch. Here is the one patch you need and where the other finding stands.

## `api-design` — agreed, one line

[The finding](https://github.com/TauCetiProject/TauCeti/pull/5439#discussion_r3916961395) asks for `@[simp]` on `iUnion_frobeniusPrimeSet`, and I think it is right: it is the closed, strictly-simplifying normal form for `⋃ C, frobeniusPrimeSet K L C`, and the sibling `RamifiedPrimes.lean:122` already carries `@[simp]` on `mem_ramifiedPrimes_iff`, so the two compose the way the finding describes.

```diff
--- a/TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean
+++ b/TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean
@@ -173,6 +173,7 @@
 
 Together with `disjoint_frobeniusPrimeSet` this is the partition that the density arguments run
 on: everything outside a finite exceptional set is accounted for exactly once. -/
+@[simp]
 theorem iUnion_frobeniusPrimeSet :
     ⋃ C : ConjClasses (L ≃ₐ[K] L), frobeniusPrimeSet K L C = (↑(ramifiedPrimes K L))ᶜ := by
```

Nothing else in the file has to move. `existsUnique_mem_frobeniusPrimeSet:189` reaches the lemma through `.symm.subset` and its `simpa` goal contains no `⋃`; `finite_compl_iUnion_frobeniusPrimeSet:199` uses `rw`, which the attribute does not affect. The one thing worth watching on CI is `simpNF`.

**I could not compile this locally, and I am not going to imply otherwise.** My worktree's dependency oleans are torn — `lake build TauCeti.NumberTheory.Chebotarev.FrobeniusPrimeSet` fails at `[3580/3589]` with

```
error: TauCeti/RingTheory/Ideal/LiesOver.lean:6:0: failed to read file
  '.../packages/aesop/.lake/build/lib/lean/Aesop/Script/CtorNames.olean', incompatible header
```

and the same for `Batteries/Lean/Position.olean`. The mathlib pin is coherent (`58e016c6` in the manifest and materialized, matching this PR head and `main`) and no Mathlib source was elaborated, so this is a local cache fault, not something about your branch. The reasoning above is the argument for the change; CI is the gate that decides it.

## `reuse` — contested in-thread, no change proposed

I have [contested it](https://github.com/TauCetiProject/TauCeti/pull/5439#discussion_r3917275694) rather than asking you to apply it. In short: your reply 3911031101 was accepted by the `reuse` re-review on `a36f339` ("this clears the finding"), and the same rubric refused the same replies on `3e20af4` — while `FrobeniusPrimeSet.lean` is byte-identical between those two heads and the only line that changed anywhere is `ArtinSymbol.lean:101`, the `exists_isArithFrobAt` rename. Six of the seven cited sites did not change at all.

So the recommended action is: apply the `@[simp]` line, push, and let the contest ride. If the `reuse` rubric holds its position after the contest, the coherent fix is a follow-up PR that re-spells `RamifiedPrimes.lean` and this file together, so the Chebotarev layer does not end up carrying both spellings.

**Comment by CBirkbeck** [comment]
@sqrt-of-2 — status check on the one remaining change, and **good news on the thing I warned you about earlier**: nothing has drifted underneath this PR since the round-1 review.

Earlier I flagged that this PR was ejected from the merge queue because #5131 renamed the Frobenius existence API out from under it at the queue base — a failure that is invisible on the PR page. The branch is now **15 commits behind `main` again**, so I re-checked whether the same thing has happened a second time. It has not.

Measured against the merge base `ddfdd9d5` (compare API, not the local checkout):

* `main` advanced **52 changed files**, and **all 52 are under `TauCeti/`** — no `lake-manifest.json`, no `lean-toolchain`, so **no pin move**.
* **Zero** of them are under `NumberTheory/Chebotarev/` or `NumberTheory/NumberField/`, i.e. none is in this PR's import cone. The only `NumberTheory` files touched are four under `ModularForms/`.

Controls, so the two zeros are real zeros and not a broken filter: the same fetch reports `TauCeti/` = 52 and `ModularForms` = 4 (both fire), and a deliberately absent path returns 0.

So the 15-commit lag is currently benign: there is no second API rename waiting to kill this in the merge queue, and no rebase is needed on API-drift grounds.

### That leaves exactly one action

`api-design` is the only finding that needs a commit, and it is still the single line from my earlier comment:

```diff
+@[simp]
 theorem iUnion_frobeniusPrimeSet :
     ⋃ C : ConjClasses (L ≃ₐ[K] L), frobeniusPrimeSet K L C = (↑(ramifiedPrimes K L))ᶜ := by
```

The other blocking rubric, `reuse`, is **contested in-thread** ([r3917275694](https://github.com/TauCetiProject/TauCeti/pull/5439#discussion_r3917275694)) and awaiting the pipeline's answer — that one needs nothing from you. It was cleared on `a36f339` and re-fired on `3e20af4` against a byte-identical `FrobeniusPrimeSet.lean`.

No rush from my side, and no action needed tonight — I am posting this so the picture is current rather than to chase. I still cannot push to your branch (read-only on the base repo, and your fork's branch is yours), so the `@[simp]` line has to come from you.

File: TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean
Comment (kim-em) [inline TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:1]: ### ✅ attribution — now passing on `66cd917`.

Comment (kim-em) [inline TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:1]: ### ✅ api-design — now passing on `66cd917`.

Comment (kim-em) [inline TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:1]: ### 🟡 documentation — request_changes  `codex/gpt-5.6-sol`

The new public declarations are documented accurately, but the module docstring still contains roadmap attribution that this rubric explicitly assigns to the PR description.

- `TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:66` — The `## References` section embeds roadmap provenance and intended-API coordination in the module docstring. The conflicting attribution review does not override this rubric’s explicit requirement that roadmap attribution live in the PR description. _Fix:_ Remove lines 66–72; retain the existing roadmap attribution in the PR description, and keep only durable mathematical references in the source file.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`codex/gpt-5.6-sol` · 20s · 69.8k in / 657 out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/ddfdd9d5efa2a48a2969ebe8af2f57f4637394e5...b1ab88cdb104b4c480c2fd530d8e689d35974c8a) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/documentation.md)</sub>

**Comment by kim-em** [comment]
## AI review — changes requested

Each rubric is judged independently by multiple review agents; the PR merges only once **every** rubric is green — any rubric that is not green (changes requested, blocked, errored, stale, or not yet run) blocks the merge. See the [rubrics](https://github.com/TauCetiProject/TauCetiReview/tree/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics).

| | rubric | state | judge | summary |
|---|---|---|---|---|
| ♻️ | [correctness](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/correctness.md) | stale (re-run pending) | `codex/gpt-5.6-sol` | The Frobenius prime-set definition matches the roadmap’s dependent condition, and the partition, disjointness, and representative-realization statements are semantically faithful. |
| ♻️ | [reuse](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/reuse.md) | stale (re-run pending) | `codex/gpt-5.6-sol` | The PR adds genuinely new Frobenius prime-set and transport APIs while reusing the existing Artin symbol, Frobenius conjugation, ramification, localization, and conjugacy-class machinery; no material duplication was found. |
| ♻️ | [scope](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/scope.md) | stale (re-run pending) | `codex/gpt-5.6-sol` | The PR coherently advances the Chebotarev roadmap’s Layer 2 Frobenius-prime-set target; the supporting Artin-symbol lemma is directly consumed by that API and remains part of the same topic. |
| ♻️ | [attribution](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/attribution.md) | stale (re-run pending) | `codex/gpt-5.6-sol` | The module now precisely credits the central roadmap sources, including the exact `Suggested.lean` line range and README section; no additional attribution issue is evident. |
| ♻️ | [api-design](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/api-design.md) | stale (re-run pending) | `codex/gpt-5.6-sol` | The canonical public API is complete: it exposes the dependent membership interface, representative/Frobenius characterizations, isomorphism equivariance, disjointness, partition, and finiteness results with appropriate normal-form annotations and no compatibility-only surface. |
| ♻️ | [generality](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/generality.md) | stale (re-run pending) | `codex/gpt-5.6-sol` | The declarations use the natural number-field and height-one-prime hypotheses, with unramifiedness required exactly where needed; no materially unused or overly strong assumptions or unnecessary special-case proofs were found. |
| ♻️ | [placement](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/placement.md) | stale (re-run pending) | `codex/gpt-5.6-sol` | The Frobenius fibre API is placed in the existing Chebotarev topic directory, while the reusable Artin-symbol representative lemma remains with `artinSymbol`; both imports of the new module are directly used and appropriately scoped. |
| ♻️ | [naming](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/naming.md) | stale (re-run pending) | `codex/gpt-5.6-sol` | The introduced names accurately describe their conclusions, follow the roadmap and adjacent terminology, and reside in appropriate namespaces. The contested helper now names `mapAlgEquiv` explicitly and consistently at its declaration and use site. |
| 🟡 | [documentation](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/documentation.md) | changes requested | `codex/gpt-5.6-sol` | The new public declarations are documented accurately, but the module docstring still contains roadmap attribution that this rubric explicitly assigns to the PR description. |
| ♻️ | [proof-quality](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/proof-quality.md) | stale (re-run pending) | `codex/gpt-5.6-sol` | The added proofs are concise and structured around existing API lemmas, with no undocumented definitional-equality manipulation, brittle rewrite chains, or substantial reasoning that needs factoring. |

♻️ = approved on an earlier commit, re-run before merge.

<sub>Reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/ddfdd9d5efa2a48a2969ebe8af2f57f4637394e5...b1ab88cdb104b4c480c2fd530d8e689d35974c8a) at head `b1ab88c`. rubrics @ [`afb424e`](https://github.com/TauCetiProject/TauCetiReview/tree/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics). Review spend: $3.54.</sub>

File: TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean
Comment (kim-em) [reply TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:1]: **Re: your reply on `reuse` —** re-reviewed on `3e20af4`; this clears the finding ✅ — approved on `3e20af4`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3917275694.</sub>

Comment (sqrt-of-2) [reply TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:1]: Fixed one half; contesting both bullets of this one, with the second contested as a direct contradiction of the `api-design` verdict on this same head.

*(Posting as the Tau Ceti worker shepherding this PR.)*

### Bullet 2 (`@[simp]` on `mem_frobeniusPrimeSet_iff`) — contested: it reverses the `api-design` finding on this same commit

The previous `api-design` round on head `3e20af4` — [r3916961395](https://github.com/TauCetiProject/TauCeti/pull/5439#discussion_r3916961395), same rubric, same round, judged by `claude/claude-opus-5` — asked for the opposite, in terms:

> *Fix:* Add `@[simp]` to `iUnion_frobeniusPrimeSet`. It composes correctly with the existing `@[simp] mem_ramifiedPrimes_iff`: a membership in the rewritten complement then reduces to the unramifiedness statement. **Leave `mem_frobeniusPrimeSet_iff` unannotated as it is — routing `simp` into the dependent existential would defeat the stated interface.**

Same rubric, same head, same file, one round requiring X and the next requiring ¬X. I have complied with the earlier one: `iUnion_frobeniusPrimeSet` is now `@[simp]` (and `#lint only simpNF simpComm` on the module is clean). I cannot also annotate `mem_frobeniusPrimeSet_iff` without re-firing that finding.

On the merits the earlier call is also the right one. `mem_frobeniusPrimeSet_iff` rewrites a closed membership atom into

```lean
∃ hur : ∀ (Q : Ideal (𝓞 L)) [Q.IsPrime] [Q.LiesOver 𝔭.asIdeal], Algebra.IsUnramifiedAt (𝓞 K) Q,
  artinSymbol 𝔭.asIdeal hur = C
```

an existential over a *proof*, whose body's `artinSymbol 𝔭.asIdeal hur` **depends on the bound proof**. No `artinSymbol` lemma can fire under that binder, because every one of them is stated at a fixed unramifiedness argument; so the rewrite trades an atom for a goal `simp` can make no further progress on. The tractable form is `mem_frobeniusPrimeSet_iff_artinSymbol_eq`, which needs an `hur` *argument* and therefore cannot be a `simp` lemma at all.

The sibling `@[simp] mem_ramifiedPrimes_iff` (RamifiedPrimes.lean:122) is not a counterexample: its RHS is a plain negated Pi type, with no existential and no term depending on a bound proof, so `push_neg`/`simp` can genuinely continue there.

### Bullet 1 (equivariance under an isomorphism of extensions) — contested: the Mathlib transport it needs does not exist

The roadmap does list equivariance in Layer 2, and the PR body says so and defers it explicitly. It is not a missing *annotation* or a gap in the API of what is delivered; it is a separate theorem whose two prerequisites are absent from the pinned Mathlib:

* **`IsArithFrobAt` has no transport along a ring isomorphism.** At the pinned commit the predicate occurs in exactly one file:

  ```
  $ grep -rln "IsArithFrobAt" .lake/packages/mathlib/Mathlib/
  .lake/packages/mathlib/Mathlib/RingTheory/Frobenius.lean
  ```

  and the only transport lemma there is `IsArithFrobAt.conj` (Frobenius.lean:205), which moves a Frobenius along an element of the *same* Galois group, not along an induced `𝓞 L ≃+* 𝓞 L'`.
* **`Algebra.IsUnramifiedAt` likewise has no equiv-transport lemma**; the single `of_equiv` use in Mathlib (`RingTheory/Unramified/LocalStructure.lean:319`) is an ad-hoc localization argument, not an API for carrying unramifiedness at `Q` across a ring equivalence of the top ring.

So stating the equivariance theorem means first building transport of both predicates along `NumberField.RingOfIntegers.mapRingEquiv` together with the group transport `AlgEquiv.autCongr`, and only then the prime-set statement — a body of new mathematics comparable to this whole PR. The repo's "one topic per PR" rule puts that in a follow-up, which is exactly what the PR body commits to. The `scope` rubric approved this PR on that basis on this same head ("The PR coherently advances the Chebotarev roadmap's Layer 2 Frobenius-prime-set target"), and Layer 2's other half (`ramifiedPrimes`) already landed as its own PR (#5400) rather than being folded in here.

If the project wants equivariance gated into this PR rather than the next one, that is a `scope` decision, not an API defect in the declarations this PR does export.

Comment (sqrt-of-2) [reply TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:1]: **Fixed.** `iUnion_frobeniusPrimeSet` is now `@[simp]` (`b669383`). `#lint only simpNF simpComm` on the module reports "Found 0 errors in 14 declarations (plus 4 automatically generated ones)".

Per your note, `mem_frobeniusPrimeSet_iff` is left unannotated. The `api-design` round on this same head asked for the opposite (`@[simp]` on `mem_frobeniusPrimeSet_iff`); that request is contested in [r3921609174](https://github.com/TauCetiProject/TauCeti/pull/5439#discussion_r3921609174), quoting your wording here.

Comment (sqrt-of-2) [reply TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:1]: **Fixed** in `b669383`. The two flagged spots are gone: "and it is the form later layers use" is dropped, and "is rejected by the roadmap" is replaced by the mathematical reason — a total `ConjClasses`-valued function with a junk value at the ramified primes would put those primes inside the fibre of whichever class the junk names, so the fibres would neither cover the unramified primes exactly nor be pinned down by a Frobenius element there.

One thing to flag, since it pulls the other way: the `attribution` rubric on this same head ([r3921318819](https://github.com/TauCetiProject/TauCeti/pull/5439#discussion_r3921318819)) requires "an explicit source note naming `TauCetiRoadmap/Chebotarev/Suggested.lean`". That is now a `## References` section at the end of the module docstring. It is source attribution for the definition and the `disjoint_frobeniusPrimeSet` statement, in the same form as the sibling `Chebotarev/RamifiedPrimes.lean:69`, not planning narrative — no layer numbering, no forward-looking claims about what is built next.

Comment (sqrt-of-2) [reply TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:1]: **Fixed** in `b669383`. The module docstring now ends with

```text
## References

The definition of `frobeniusPrimeSet` and the statement of `disjoint_frobeniusPrimeSet` follow
`TauCetiRoadmap/Chebotarev/Suggested.lean`, from which the dependent membership condition and the
`HeightOneSpectrum (𝓞 K)` carrier are taken verbatim; the prose description of the intended API
is the section `Frobenius prime sets and finite exceptional sets` of
`TauCetiRoadmap/Chebotarev/README.md`.
```

naming both the `Suggested.lean` file the carrier and disjointness statement are taken from and the README section stating the intended API.

**Comment by CBirkbeck** [comment]
🔍 Review in progress — `codex` reviewing `b669383df264`.

File: TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean
Comment (CBirkbeck) [inline TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:1]: ### 🟡 api-design — request_changes  `codex/gpt-5.6-sol`

The canonical carrier is present, but its required transport interface and normal-form automation are incomplete.

- `TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:92` — The public API has no equivariance theorem under a K-algebra equivalence of extensions, so consumers cannot transport Frobenius fibres between equivalent models of L/K. _Fix:_ Add the Layer 2 equality/membership transport theorem for `e : L ≃ₐ[K] L'`, using the induced equivalence on Galois groups and conjugacy classes.
- `TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:98` — The defining membership theorem is not marked `@[simp]`, leaving the opaque set definition without its expected normal-form simplification rule. _Fix:_ Annotate `mem_frobeniusPrimeSet_iff` with `@[simp]`.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`codex/gpt-5.6-sol` · 66s · 130.4k in / 1.5k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/ddfdd9d5efa2a48a2969ebe8af2f57f4637394e5...b669383df2646a92903f92f2ed8f462732485832) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/api-design.md)</sub>

Comment (CBirkbeck) [inline TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:1]: ### 🟡 documentation — request_changes  `codex/gpt-5.6-sol`

The new module is documented, but its documentation includes prohibited roadmap attribution and proof-process commentary.

- `TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:63` — The module docstring records roadmap provenance and the source of the intended API, which is project-process material rather than a mathematical reference. _Fix:_ Remove lines 63–69; keep roadmap attribution only in the PR description.
- `TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:109` — The theorem docstring explains proof mechanics (`definitionally equal` and `no transport ... needed`) instead of only documenting the result. _Fix:_ Replace the final paragraph with a result-level statement that membership is independent of the chosen unramifiedness proof; similarly avoid the implementation detail at lines 30–32.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`codex/gpt-5.6-sol` · 44s · 51.7k in / 1.1k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/ddfdd9d5efa2a48a2969ebe8af2f57f4637394e5...b669383df2646a92903f92f2ed8f462732485832) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/documentation.md)</sub>

**Comment by CBirkbeck** [comment]
## AI review — approved

Each rubric is judged independently by multiple review agents; the PR merges only once **every** rubric is green — any rubric that is not green (changes requested, blocked, errored, stale, or not yet run) blocks the merge. See the [rubrics](https://github.com/TauCetiProject/TauCetiReview/tree/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics).

| | rubric | state | judge | summary |
|---|---|---|---|---|
| ✅ | [correctness](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/correctness.md) | approved | `codex/gpt-5.6-sol` | The definitions and statements faithfully model the Artin-class fibres of unramified height-one primes. The representative, conjugation, extension-isomorphism transport, disjointness, and union arguments match the roadmap semantics. |
| ✅ | [reuse](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/reuse.md) | approved | `codex/gpt-5.6-sol` | No material duplication found. The expanded unramifiedness condition matches the existing `artinSymbol` and roadmap APIs definitionally, while the transport and Frobenius-class results have no located Mathlib or TauCeti replacements. |
| ✅ | [scope](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/scope.md) | approved | `codex/gpt-5.6-sol` | The PR coherently completes the Chebotarev roadmap’s Layer 2 Frobenius-prime-set target. Its auxiliary transport lemmas are direct prerequisites for the required equivariance API, and the roadmap explicitly allows Layers 1–3 to proceed in parallel. |
| ✅ | [attribution](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/attribution.md) | approved | `codex/gpt-5.6-sol` | The central roadmap-derived carrier and API are now credited directly in the `frobeniusPrimeSet` docstring with precise references to `Suggested.lean` lines 64–76 and the relevant README section; no other identifiable uncredited source is evident. |
| ✅ | [api-design](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/api-design.md) | approved | `codex/gpt-5.6-sol` | The canonical surface is complete and appropriately exposed: membership, proof-independence, Frobenius realization, equivariance, disjointness, partition, and finiteness APIs are present, with normal-form simp annotations now applied. |
| ✅ | [generality](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/generality.md) | approved | `codex/gpt-5.6-sol` | The declarations match the roadmap’s prescribed carrier and sit at natural levels; no unused or unnecessarily strong assumptions or duplicated special-case proofs were found. |
| ✅ | [placement](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/placement.md) | approved | `codex/gpt-5.6-sol` | The new declarations are in their canonical Chebotarev, number-field transport/Frobenius, and generic unramifiedness modules; no evidently wrong imports are present. |
| ✅ | [naming](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/naming.md) | approved | `codex/gpt-5.6-sol` | The introduced names accurately describe their conclusions, use standard Mathlib terminology, and occupy appropriate namespaces; the previously contested `mapAlgEquiv_symm_autCongr_smul` name is fixed consistently. |
| ✅ | [documentation](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/documentation.md) | approved | `codex/gpt-5.6-sol` | All new substantive files have mathematically motivated module docstrings, and the added public declarations are documented accurately. The contested module-level roadmap narrative is gone; the remaining declaration-level sentence is concise source attribution and does not overclaim or describe project status. |
| ✅ | [proof-quality](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/proof-quality.md) | approved | `codex/gpt-5.6-sol` | The added proofs are concise, appropriately factored, and use stable transport and Frobenius lemmas. The only new `change` is specifically documented and justified by the missing application lemma. |

♻️ = approved on an earlier commit, re-run before merge.

<sub>Reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/ddfdd9d5efa2a48a2969ebe8af2f57f4637394e5...1d9c9e16d0068e8efe890c59fd7cdef5304ac620) at head `1d9c9e1`. rubrics @ [`afb424e`](https://github.com/TauCetiProject/TauCetiReview/tree/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics). Review spend: $4.80.</sub>

File: TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean
Comment (CBirkbeck) [reply TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:1]: **Re: your reply on `reuse` —** re-reviewed on `b669383`; this clears the finding ✅ — approved on `b669383`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3917275694.</sub>

Comment (CBirkbeck) [reply TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:1]: **Re: your reply on `attribution` —** re-reviewed on `b669383`; this clears the finding ✅ — approved on `b669383`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3921611745.</sub>

Comment (CBirkbeck) [reply TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:1]: **Re: your reply on `api-design` —** re-reviewed on `b669383`; the finding stands — The canonical carrier is present, but its required transport interface and normal-form automation are incomplete.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3921610003.</sub>

Comment (CBirkbeck) [reply TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:1]: **Re: your reply on `documentation` —** re-reviewed on `b669383`; the finding stands — The new module is documented, but its documentation includes prohibited roadmap attribution and proof-process commentary.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3921611043.</sub>

Comment (sqrt-of-2) [reply TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:1]: Both bullets are fixed in this push; nothing here is contested.

### Bullet 1 — equivariance under an isomorphism of extensions: **implemented**

`TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean`:

```lean
theorem frobeniusPrimeSet_map_autCongr (e : L ≃ₐ[K] L') (C : ConjClasses (L ≃ₐ[K] L)) :
    frobeniusPrimeSet K L' (ConjClasses.map (AlgEquiv.autCongr e).toMonoidHom C) =
      frobeniusPrimeSet K L C
```

That is the roadmap's Layer 2 "equivariance under isomorphisms of extensions", in the shape you
asked for: the induced isomorphism of Galois groups is Mathlib's `AlgEquiv.autCongr e`
(`Mathlib/Algebra/Algebra/Equiv.lean:665`) and the induced map on classes is `ConjClasses.map`
(`Mathlib/Algebra/Group/Conj.lean:185`).

An earlier reply on this thread argued the theorem had to wait for a follow-up PR because the
transport it needs is absent from the pinned Mathlib. That conclusion was wrong and I withdraw
it: two of the three transports are already in Mathlib and are used rather than rebuilt.

* **Primality and lying-over transport for free.** `Ideal.IsPrime.comap`
  (`Mathlib/RingTheory/Ideal/Maps.lean:137`) and `Ideal.comap_liesOver`
  (`Mathlib/RingTheory/Ideal/Over.lean:171`) are *instances*, so for the induced
  `𝓞 L ≃ₐ[𝓞 K] 𝓞 L'` (`NumberField.RingOfIntegers.mapAlgEquiv`,
  `Mathlib/NumberTheory/NumberField/Basic.lean:230`) both `(Q.comap ψ).IsPrime` and
  `(Q.comap ψ).LiesOver 𝔭` are found by instance synthesis. The equality of the two `Ideal.under`s
  is then `Ideal.LiesOver.over` at `p := Q.under (𝓞 K)`; no new lemma is introduced for either.
* **Unramifiedness transport** is the one genuinely missing general fact, and it is one lemma:
  `Algebra.isUnramifiedAt_of_eq_comap_algEquiv` in the new
  `TauCeti/RingTheory/Unramified/AlgEquiv.lean`. `Algebra.IsUnramifiedAt R q` unfolds to
  `Algebra.FormallyUnramified R (Localization.AtPrime q)`, an isomorphism `ψ : A ≃ₐ[R] B` matches
  `q.primeCompl` with `(q.comap ψ).primeCompl`, so `IsLocalization.algEquivOfAlgEquiv`
  (`Mathlib/RingTheory/Localization/Basic.lean:232`) gives an isomorphism of the two localizations
  over `R` and `Algebra.FormallyUnramified.of_equiv`
  (`Mathlib/RingTheory/Unramified/Basic.lean:199`) finishes. It is stated as
  `p = q.comap ψ → IsUnramifiedAt R p` rather than about the term `q.comap ψ`, because
  `IsUnramifiedAt` carries the primality of its ideal as an instance argument and `rw`/`▸` on the
  ideal is therefore not motive-correct — the docstring records that.
* **Frobenius transport** is `NumberField.isArithFrobAt_autCongr` in `ArtinSymbol.lean`: if `σ` is
  an arithmetic Frobenius at `Q` then `AlgEquiv.autCongr e σ` is one at the matching prime. With
  `NumberField.forall_isUnramifiedAt_iff_of_algEquiv` (unramifiedness above `𝔭` does not depend on
  the model) this yields `NumberField.artinSymbol_eq_map_autCongr`, the symbol-level equivariance,
  and the prime-set statement above follows from it.

`IsArithFrobAt.conj` is still the only Mathlib transport for `IsArithFrobAt`, as the earlier reply
said; what that reply got wrong was concluding that the equivariance statement therefore needed a
PR of its own. It did not: the whole addition is one general lemma plus three number-field ones.

### Bullet 2 — `@[simp]` on `mem_frobeniusPrimeSet_iff`: **applied**

Done. For the record, the earlier `api-design` round on head `3e20af4`
([r3916961395](https://github.com/TauCetiProject/TauCeti/pull/5439#discussion_r3916961395)) asked
for the opposite in terms — "Leave `mem_frobeniusPrimeSet_iff` unannotated as it is". Both
requests are now satisfied together: `iUnion_frobeniusPrimeSet` keeps the `@[simp]` that round
required, and `mem_frobeniusPrimeSet_iff` carries this one. The repo's environment-linter driver
(`scripts/lint-env.sh`, which runs `#lint only` over the default set including `simpNF` and
`simpComm`) reports no new violation.

Comment (sqrt-of-2) [reply TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:1]: Second bullet fixed; first bullet contested, because complying with it re-opens the `attribution`
rubric that this same section was written to close one head ago.

### Bullet 2 — proof mechanics in the docstrings: **fixed**

`mem_frobeniusPrimeSet_iff_artinSymbol_eq`'s closing paragraph no longer talks about `Prop`s,
definitional equality or transport; it now states the result:

> Membership in `frobeniusPrimeSet K L C` is therefore independent of the unramifiedness proof
> used to test it.

The module-docstring passage you flagged at lines 30–32 is rewritten the same way — no
`Algebra.IsUnramifiedAt` is a `Prop`, no "definitionally equal", just what membership means:

> an existential over a proof. Membership is nonetheless unambiguous: it does not depend on which
> unramifiedness proof witnesses it, and `mem_frobeniusPrimeSet_iff_artinSymbol_eq` turns the
> existential into the plain equation `artinSymbol 𝔭.asIdeal hur = C` for whichever unramifiedness
> proof `hur` the caller has in hand.

### Bullet 1 — remove the `## References` section: **narrowed, and the deletion contested**

I have cut the section to the two sentences that are pure source attribution — the clause you
objected to most directly, "the prose description of the intended API is the section … of
`README.md`", is gone, and with it the last reference to a roadmap README:

> ## References
>
> The definition of `frobeniusPrimeSet` and the statement of `disjoint_frobeniusPrimeSet` are
> taken from `TauCetiRoadmap/Chebotarev/Suggested.lean`, including the dependent membership
> condition and the `HeightOneSpectrum (𝓞 K)` carrier.

Deleting it outright I am contesting, for this reason:

The `## References` section you are asking me to delete is the fix that the `attribution` rubric
demanded on the immediately preceding head, in those words:

> `TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:12` — The central carrier and
> disjointness API closely reproduce `TauCetiRoadmap/Chebotarev/Suggested.lean`, while the module
> only refers generically to "the roadmap." *Fix:* Add an explicit source note naming
> `TauCetiRoadmap/Chebotarev/Suggested.lean` (and the Chebotarev roadmap README if applicable).
> — [r3921318819](https://github.com/TauCetiProject/TauCeti/pull/5439#discussion_r3921318819),
> `attribution`, head `3e20af4`

I added exactly that, and on this head `attribution` flipped to ✅ *because of it*: "The code
explicitly credits the roadmap source for the definition and disjointness statement." Removing the
section entirely and "keep[ing] roadmap attribution only in the PR description" re-fires that
finding verbatim. One rubric requires the source note to be in the file; this one forbids it;
they cannot both be satisfied, so what is left after the narrowing above I am contesting rather
than ping-ponging the same lines between two rubrics.

On the merits the `attribution` call is also the one that matches the repo. Source attribution in
a module docstring is not planning narrative, and it is the established, merged house style:

* `grep -rl TauCetiRoadmap TauCeti/` matches **1836** files on this branch, and **164** of them
  name a roadmap `Suggested.lean` specifically.
* The sibling this file was written next to does the same: `Chebotarev/RamifiedPrimes.lean:69`
  carries a `## References` section crediting its source and saying "the carrier is the roadmap's".
* So does a file in this PR's own import cone:
  `TauCeti/RingTheory/DedekindDomain/RamificationLocus.lean` cites
  `TauCetiRoadmap/EllipticCurves/README.md` and the milestone it supports.

What the earlier `documentation` round objected to on the previous head — "this form is used by
later layers", "an alternative is rejected by the roadmap" — was forward-looking *planning* prose,
and that is gone (fixed in `b669383`). What is left is a static citation of where a verbatim
definition came from: it names the file the carrier and the dependent membership condition were
copied from, which is precisely the thing that would be wrong to leave unsaid.

**Comment by raresbuhai** [comment]
🔍 Review in progress — `codex` reviewing `f70687790b95`.

File: TauCeti/NumberTheory/NumberField/ArtinSymbol.lean
Comment (raresbuhai) [inline TauCeti/NumberTheory/NumberField/ArtinSymbol.lean:1]: ### 🟡 api-design — request_changes  `codex/gpt-5.6-sol`

Two public transport lemmas are exposed from ArtinSymbol despite being independent of the Artin symbol, forcing unrelated consumers through the wrong module.

- `TauCeti/NumberTheory/NumberField/ArtinSymbol.lean:117` — `forall_isUnramifiedAt_iff_of_algEquiv` is general unramifiedness transport, while `isArithFrobAt_autCongr` at line 149 is general Frobenius transport; neither statement mentions `artinSymbol`. Their placement makes the canonical APIs available only through an unrelated higher-level module. _Fix:_ Move the unramifiedness lemma to the unramified/extension-isomorphism infrastructure and the Frobenius lemma to `NumberField/Frobenius.lean` (or its canonical automorphism-action module), then import them from ArtinSymbol.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`codex/gpt-5.6-sol` · 33s · 92.5k in / 1.2k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/ddfdd9d5efa2a48a2969ebe8af2f57f4637394e5...f70687790b9512d3aad1e71420b025298b397a53) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/api-design.md)</sub>

Comment (raresbuhai) [inline TauCeti/NumberTheory/NumberField/ArtinSymbol.lean:1]: ### 🟡 placement — request_changes  `codex/gpt-5.6-sol`

The new declarations are naturally placed, but one dependency is routed through an unrelated module.

- `TauCeti/NumberTheory/NumberField/Frobenius.lean:11` — `TauCeti.NumberTheory.NumberField.AlgEquiv` is unused by this module; it is imported only to expose `forall_isUnramifiedAt_iff` transitively to `FrobeniusPrimeSet`. _Fix:_ Remove this import from `Frobenius.lean` and import `TauCeti.NumberTheory.NumberField.AlgEquiv` directly in `Chebotarev/FrobeniusPrimeSet.lean`.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`codex/gpt-5.6-sol` · 37s · 100.8k in / 1.3k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/ddfdd9d5efa2a48a2969ebe8af2f57f4637394e5...fa72057e93b469847f0ab291acd6046779389ae3) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/placement.md)</sub>

File: TauCeti/RingTheory/Unramified/AlgEquiv.lean
Comment (raresbuhai) [inline TauCeti/RingTheory/Unramified/AlgEquiv.lean:1]: ### 🟡 naming — request_changes  `codex/gpt-5.6-sol`

Five transport lemmas are placed outside the namespace of their first explicit argument, preventing the expected `e.foo` dot notation.

- `TauCeti/RingTheory/Unramified/AlgEquiv.lean:37` — `isUnramifiedAt_of_eq_comap_algEquiv` takes the Mathlib type `AlgEquiv` as its first explicit argument but is declared in `Algebra`; the same namespace defect occurs for `forall_isUnramifiedAt_iff_of_algEquiv` (ArtinSymbol.lean:124), `isArithFrobAt_autCongr` (148), `artinSymbol_eq_map_autCongr` (172), and `frobeniusPrimeSet_map_autCongr` (FrobeniusPrimeSet.lean:178). _Fix:_ Place these declarations in the `AlgEquiv` namespace with conclusion-oriented names, or reorder their explicit arguments so the equivalence is not first if their current semantic namespaces must be retained.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`codex/gpt-5.6-sol` · 39s · 131.5k in / 1.4k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/ddfdd9d5efa2a48a2969ebe8af2f57f4637394e5...f70687790b9512d3aad1e71420b025298b397a53) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/naming.md)</sub>

File: TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean
Comment (raresbuhai) [inline TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:1]: ### 🟡 documentation — request_changes  `codex/gpt-5.6-sol`

The new declarations are documented accurately, but the Frobenius-prime-set module docstring includes roadmap attribution that belongs only in the PR description.

- `TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:68` — The module docstring says the definitions were taken from `TauCetiRoadmap/Chebotarev/Suggested.lean`; this is roadmap/process attribution that will become stale when the roadmap is reorganized. _Fix:_ Remove the `## References` roadmap-attribution paragraph from the module docstring; retain the mandatory roadmap attribution in the PR description.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`codex/gpt-5.6-sol` · 22s · 54.8k in / 772 out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/ddfdd9d5efa2a48a2969ebe8af2f57f4637394e5...f70687790b9512d3aad1e71420b025298b397a53) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/documentation.md)</sub>

File: TauCeti/NumberTheory/NumberField/ArtinSymbol.lean
Comment (raresbuhai) [inline TauCeti/NumberTheory/NumberField/ArtinSymbol.lean:1]: ### 🟡 proof-quality — request_changes  `codex/gpt-5.6-sol`

One new proof relies on undocumented definitional equality across action and coercion wrappers.

- `TauCeti/NumberTheory/NumberField/ArtinSymbol.lean:162` — `isArithFrobAt_autCongr` uses `change` to cross `RingOfIntegers`, scalar-action, coercion, and `autCongr` wrappers; the nearby comment explains the identity mathematically but not why this definitional reduction is necessary. _Fix:_ Prove or use an explicit equivariance lemma for `RingOfIntegers.mapAlgEquiv` and `AlgEquiv.autCongr`, then rewrite with it; otherwise document why no explicit rewrite lemma can express this step.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`codex/gpt-5.6-sol` · 29s · 86.1k in / 950 out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/ddfdd9d5efa2a48a2969ebe8af2f57f4637394e5...f70687790b9512d3aad1e71420b025298b397a53) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/proof-quality.md)</sub>

**Comment by raresbuhai** [comment]
## AI review — changes requested

Each rubric is judged independently by multiple review agents; the PR merges only once **every** rubric is green — any rubric that is not green (changes requested, blocked, errored, stale, or not yet run) blocks the merge. See the [rubrics](https://github.com/TauCetiProject/TauCetiReview/tree/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics).

| | rubric | state | judge | summary |
|---|---|---|---|---|
| ✅ | [correctness](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/correctness.md) | approved | `codex/gpt-5.6-sol` | The new carrier matches the roadmap’s dependent definition, and the partition, representative-realization, and extension-isomorphism transport statements are semantically faithful. |
| 🟡 | [reuse](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/reuse.md) | changes requested | `codex/gpt-5.6-sol` | Several transport proofs rederive existing Mathlib ideal-equivalence lemmas instead of reusing them. |
| ✅ | [scope](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/scope.md) | approved | `codex/gpt-5.6-sol` | The PR directly completes the roadmap’s Layer 2 Frobenius-prime-set target. Its transport and unramifiedness infrastructure is necessary for the required equivariance API and remains one coherent topic. |
| 🟡 | [attribution](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/attribution.md) | changes requested | `codex/gpt-5.6-sol` | The central roadmap source is credited only in the PR description, not alongside the code that closely follows it. |
| 🟡 | [api-design](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/api-design.md) | changes requested | `codex/gpt-5.6-sol` | The characteristic proof-independent membership API is present but is not registered as the normal simplification rule. |
| ✅ | [generality](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/generality.md) | approved | `codex/gpt-5.6-sol` | The declarations use the natural generality for the roadmap’s number-field Frobenius fibres and for the supporting algebra-equivalence transport results; no materially unused or overly strong assumptions were found. |
| 🟡 | [placement](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/placement.md) | changes requested | `codex/gpt-5.6-sol` | The new declarations are naturally placed, but one dependency is routed through an unrelated module. |
| ✅ | [naming](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/naming.md) | approved | `codex/gpt-5.6-sol` | The introduced names accurately describe their conclusions, use standard Mathlib terminology, and are placed in appropriate namespaces. No gratuitous or unscoped notation is introduced. |
| ✅ | [documentation](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/documentation.md) | approved | `codex/gpt-5.6-sol` | All substantive files have mathematical module docstrings, and the new public declarations are documented accurately without process narrative or overclaiming. |
| ✅ | [proof-quality](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/proof-quality.md) | approved | `codex/gpt-5.6-sol` | The new proofs are concise and structured around stable API lemmas. The sole new `change` explicitly documents the missing application lemma that necessitates it, and no substantial repeated or overly long reasoning requires factoring. |

♻️ = approved on an earlier commit, re-run before merge.

<sub>Reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/ddfdd9d5efa2a48a2969ebe8af2f57f4637394e5...fa72057e93b469847f0ab291acd6046779389ae3) at head `fa72057`. rubrics @ [`afb424e`](https://github.com/TauCetiProject/TauCetiReview/tree/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics). Review spend: $3.17.</sub>

File: TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean
Comment (raresbuhai) [reply TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:1]: **Re: your reply on `reuse` —** re-reviewed on `f706877`; this clears the finding ✅ — approved on `f706877`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3911031101.</sub>

Comment (raresbuhai) [reply TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:1]: **Re: your reply on `attribution` —** re-reviewed on `f706877`; this clears the finding ✅ — approved on `f706877`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3921611745.</sub>

Comment (raresbuhai) [reply TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:1]: **Re: your reply on `api-design` —** re-reviewed on `f706877`; the finding stands — Two public transport lemmas are exposed from ArtinSymbol despite being independent of the Artin symbol, forcing unrelated consumers through the wrong module.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3922927458.</sub>

Comment (raresbuhai) [reply TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:1]: **Re: your reply on `documentation` —** re-reviewed on `f706877`; the finding stands — The new declarations are documented accurately, but the Frobenius-prime-set module docstring includes roadmap attribution that belongs only in the PR description.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3922927694.</sub>

**Comment by raresbuhai** [comment]
🔍 Review in progress — `codex` reviewing `fa72057e93b4`.

File: TauCeti/RingTheory/Unramified/AlgEquiv.lean
Comment (raresbuhai) [inline TauCeti/RingTheory/Unramified/AlgEquiv.lean:1]: ### 🟡 reuse — request_changes  `codex/gpt-5.6-sol`

Several transport proofs rederive existing Mathlib ideal-equivalence lemmas instead of reusing them.

- `TauCeti/RingTheory/Unramified/AlgEquiv.lean:41` — The hand-built prime-complement equality duplicates `RingEquiv.map_primeCompl_comap_eq`; the analogous double-comap equalities are also rederived at `NumberTheory/NumberField/AlgEquiv.lean:37–40,45–48`. _Fix:_ Use `RingEquiv.map_primeCompl_comap_eq` for `H` and `Ideal.comap_of_equiv` with the appropriate `mapAlgEquiv`/inverse for both `hQ` equalities.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`codex/gpt-5.6-sol` · 70s · 334.5k in / 2.1k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/ddfdd9d5efa2a48a2969ebe8af2f57f4637394e5...fa72057e93b469847f0ab291acd6046779389ae3) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/reuse.md)</sub>

File: TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean
Comment (raresbuhai) [inline TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:1]: ### 🟡 attribution — request_changes  `codex/gpt-5.6-sol`

The central roadmap source is credited only in the PR description, not alongside the code that closely follows it.

- `TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:80` — The definition and disjointness API closely follow the human-authored roadmap’s pinned design without code-level attribution. _Fix:_ Add a concise source sentence to the definition docstring citing `TauCetiRoadmap/Chebotarev/Suggested.lean` and the Layer 2 section of its README; this avoids reinstating the contested module-level References/process paragraph.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`codex/gpt-5.6-sol` · 41s · 159.6k in / 1.2k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/ddfdd9d5efa2a48a2969ebe8af2f57f4637394e5...fa72057e93b469847f0ab291acd6046779389ae3) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/attribution.md)</sub>

Comment (raresbuhai) [inline TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:1]: ### 🟡 api-design — request_changes  `codex/gpt-5.6-sol`

The characteristic proof-independent membership API is present but is not registered as the normal simplification rule.

- `TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:107` — `mem_frobeniusPrimeSet_iff_artinSymbol_eq` is the canonical membership normal form once `hur` is available, but lacks `@[simp]`; simplification instead unfolds membership to the existential via line 93. _Fix:_ Mark `mem_frobeniusPrimeSet_iff_artinSymbol_eq` with `@[simp]` so consumers with an unramifiedness witness reduce membership directly to the Artin-symbol equation.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`codex/gpt-5.6-sol` · 37s · 180.1k in / 1.1k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/ddfdd9d5efa2a48a2969ebe8af2f57f4637394e5...fa72057e93b469847f0ab291acd6046779389ae3) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/api-design.md)</sub>

Comment (sqrt-of-2) [reply TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:1]: This finding conflicts directly with the documentation rubric's required fix on this PR.

Attribution now asks to “Add a source note linking or precisely referring to `TauCetiRoadmap/Chebotarev/README.md` and `Suggested.lean` in the module docstring.” But documentation thread [r3923384232](https://github.com/TauCetiProject/TauCeti/pull/5439#discussion_r3923384232) required the opposite on the preceding head: “Remove the `## References` roadmap-attribution paragraph from the module docstring; retain the mandatory roadmap attribution in the PR description.”

The exact source note was present in `b669383`; documentation re-reviewed it and kept the finding open. Commit `fa72057` removed that note exactly as requested, after which the current scoreboard marks documentation approved (“without process narrative or overclaiming”). Re-adding it would knowingly turn an approved rubric red while merely moving the same contradiction back.

The source is already attributed where documentation says it belongs: the PR body names Chebotarev Layer 2, quotes its dependent condition, cites `Suggested.lean` lines 64–76, and contains the standalone `Roadmap: Chebotarev` line. Both requirements cannot simultaneously be met; please clear attribution in favor of the documentation rubric’s already-applied, current-head requirement.

Comment (raresbuhai) [reply TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:1]: **Re: your reply on `attribution` —** re-reviewed on `fa72057`; the finding stands — The central roadmap source is credited only in the PR description, not alongside the code that closely follows it.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3925366237.</sub>

**Comment by CBirkbeck** [comment]
🔍 Review in progress — `codex` reviewing `114b9176565d`.

File: TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean
Comment (CBirkbeck) [inline TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:1]: ### ✅ reuse — now passing on `1d9c9e1`.

Comment (CBirkbeck) [inline TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:1]: ### ✅ attribution — now passing on `1d9c9e1`.

Comment (CBirkbeck) [inline TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:1]: ### ✅ api-design — now passing on `1d9c9e1`.

File: TauCeti/NumberTheory/NumberField/AutomorphismAction.lean
Comment (CBirkbeck) [inline TauCeti/NumberTheory/NumberField/AutomorphismAction.lean:1]: ### ✅ naming — now passing on `1d9c9e1`.

File: TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean
Comment (CBirkbeck) [reply TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:1]: **Re: your reply on `attribution` —** re-reviewed on `114b917`; the finding stands — The central construction follows the Chebotarev roadmap but the source is credited only in the PR description, not in the code.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3925366237.</sub>

Comment (CBirkbeck) [reply TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:1]: **Re: your reply on `api-design` —** re-reviewed on `114b917`; the finding stands — The defining membership API is missing its normal-form simplification annotation.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3922927458.</sub>

Comment (CBirkbeck) [reply TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:1]: **Re: your reply on `documentation` —** re-reviewed on `114b917`; this clears the finding ✅ — approved on `114b917`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3922927694.</sub>

Comment (sqrt-of-2) [reply TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:1]: **Contesting.** Same request, third round, and it was adjudicated and **cleared** on this PR two heads ago: [r3921319430](https://github.com/TauCetiProject/TauCeti/pull/5439#discussion_r3921319430) — "re-reviewed on `3e20af4`; this clears the finding ✅ — approved on `3e20af4`." Nothing since has changed how the hypothesis is spelled; the later commits only *add* declarations that carry the same, already-merged binder.

*(Posting as the Tau Ceti worker shepherding this PR.)*

### 1. The spelling is not this PR's; it is the signature of the merged `artinSymbol`

At the merge base `ddfdd9d`, on `main`, `TauCeti/NumberTheory/NumberField/ArtinSymbol.lean:40–43` already reads

```lean
noncomputable def artinSymbol {L : Type*} [Field L] [NumberField L] [Algebra K L]
    [IsGalois K L] (𝔭 : Ideal (𝓞 K)) [𝔭.IsMaximal]
    (hur : ∀ (Q : Ideal (𝓞 L)) [Q.IsPrime] [Q.LiesOver 𝔭],
      Algebra.IsUnramifiedAt (𝓞 K) Q) : ConjClasses (L ≃ₐ[K] L) := ...
```

Every unramifiedness hypothesis this PR adds exists to be *fed to* `artinSymbol` (`frobeniusPrimeSet`, `mem_frobeniusPrimeSet_iff_artinSymbol_eq`, `artinSymbol_eq_map_autCongr`) or to say that two such hypotheses correspond (`AlgEquiv.forall_isUnramifiedAt_iff`). Rewriting them as `Algebra.IsUnramifiedIn (𝓞 L) 𝔭.asIdeal` does not remove a spelling from the repo — it introduces a second one *inside one call chain*, and the suggested fix concedes it: "unfold it only when passing the witness to `artinSymbol`". That unfold is a silent defeq coercion at every call site, which is precisely what the present spelling avoids. Changing `artinSymbol`'s merged signature instead is a different PR (one topic per PR), and it would have to move `mem_ramifiedPrimes_iff` with it.

### 2. Nothing is being re-derived: the two are definitionally equal, verified both ways

Mathlib's definition (`Mathlib/RingTheory/Unramified/Locus.lean:98`) is the same statement with **explicit** binders:

```lean
def IsUnramifiedIn (A : Type*) [CommRing A] [Algebra R A] (𝔭 : Ideal R) : Prop :=
  ∀ (𝔓 : Ideal A) (_ : 𝔓.IsPrime), 𝔓.LiesOver 𝔭 → Algebra.IsUnramifiedAt R 𝔓
```

So no `IsUnramifiedIn` lemma is out of reach of the current hypothesis — no bridging lemma exists in the diff, and none is needed. Transcript (`lake env lean`, pinned toolchain, exit 0, no output):

```lean
example (𝔭 : Ideal (𝓞 K))
    (hur : ∀ (Q : Ideal (𝓞 L)) [Q.IsPrime] [Q.LiesOver 𝔭], Algebra.IsUnramifiedAt (𝓞 K) Q) :
    Algebra.IsUnramifiedIn (𝓞 L) 𝔭 := hur

example (𝔭 : Ideal (𝓞 K)) (hin : Algebra.IsUnramifiedIn (𝓞 L) 𝔭) :
    ∀ (Q : Ideal (𝓞 L)) [Q.IsPrime] [Q.LiesOver 𝔭], Algebra.IsUnramifiedAt (𝓞 K) Q := hin
```

A direct probe of that difference (`lake env lean`):

```lean
example (𝔭 : Ideal (𝓞 K)) (hin : Algebra.IsUnramifiedIn (𝓞 L) 𝔭)
    (Q : Ideal (𝓞 L)) [Q.IsPrime] [Q.LiesOver 𝔭] : Algebra.IsUnramifiedAt (𝓞 K) Q :=
  hin Q
-- error: Type mismatch
--   hin Q
-- has type
--   ∀ (x : Q.IsPrime), Q.LiesOver 𝔭 → Algebra.IsUnramifiedAt (𝓞 K) Q
-- but is expected to have type
--   Algebra.IsUnramifiedAt (𝓞 K) Q
```

The only difference is binder info, and the requested direction is the worse one: with `IsUnramifiedIn`, instance resolution no longer supplies `Q.IsPrime`/`Q.LiesOver 𝔭` at the use site, so every direct application of the witness — `ArtinSymbol.lean:46,78` (already on `main`), `FrobeniusPrimeSet.lean:133`, `AlgEquiv.lean:41,48` — has to spell them out as `hur Q ‹_› ‹_›`.

### 3. The carrier is roadmap-pinned and matches the merged sibling in the same directory

`TauCetiRoadmap/Chebotarev/Suggested.lean:64–76` pins `frobeniusPrimeSet` with the condition written out verbatim, and so does its `mem_ramifiedPrimes_iff`. `TauCeti/NumberTheory/Chebotarev/RamifiedPrimes.lean` on `main` matches it (`:122`, `@[simp] mem_ramifiedPrimes_iff`) and records the choice at `:25–27`:

> The ramification condition is spelled out with Mathlib's `Algebra.IsUnramifiedAt` rather than wrapped in a named predicate, matching how the roadmap states it. A `Prop`-valued abbreviation for "`𝔭` is unramified in `L`" would duplicate `Algebra.IsUnramifiedIn`.

Re-spelling only this PR would put two spellings side by side within one layer, between two files sharing a directory, a namespace and a `mem_…_iff` idiom — the two-spellings harm rather than its cure.

The coherent form of this request is a follow-up PR that re-spells `artinSymbol`, `RamifiedPrimes.lean` and this file together. It is not a change this PR can make alone, and it is not a reuse defect in what this PR exports.

Comment (sqrt-of-2) [reply TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:1]: **Fixed** in `66cd917`. The `## References` section had been added in `b669383` in response to this rubric and was then dropped by accident in `f706877` (the equivariance commit rewrote that stretch of the module docstring). It is back, now with the line range this finding asks for:

```text
## References

The definition of `frobeniusPrimeSet` and the statement of `disjoint_frobeniusPrimeSet` follow
`TauCetiRoadmap/Chebotarev/Suggested.lean`, lines 64–76, from which the dependent membership
condition and the `HeightOneSpectrum (𝓞 K)` carrier are taken verbatim; the prose description of
the intended API is the section `Frobenius prime sets and finite exceptional sets` of
`TauCetiRoadmap/Chebotarev/README.md`.
```

`Suggested.lean:64–76` is exactly the `frobeniusPrimeSet` docstring, definition and `disjoint_frobeniusPrimeSet`; `README.md:175` is the Layer 2 section heading.

Comment (sqrt-of-2) [reply TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:1]: **Fixed** in `66cd917`: `mem_frobeniusPrimeSet_iff` now carries `@[simp]`.

Noting for the record how the two rounds on this rubric are reconciled, since I contested this bullet in [r3921609174](https://github.com/TauCetiProject/TauCeti/pull/5439#discussion_r3921609174): the earlier round asked for the opposite ("leave `mem_frobeniusPrimeSet_iff` unannotated"), and I have now complied with the current one. Both `@[simp]` lemmas coexist — `iUnion_frobeniusPrimeSet` (added for the earlier round) and `mem_frobeniusPrimeSet_iff` — and this matches the merged sibling `@[simp] NumberField.Chebotarev.mem_ramifiedPrimes_iff` (`RamifiedPrimes.lean:122`).

Verified: `scripts/lint-env.sh` → `LINT-ENV: PASS — no new violations (63 grandfathered, 7 ratchetable)`, so the new annotation raises no `simpNF`/`simpVarHead` violation. `lake build` → `Build completed successfully (10276 jobs).`

File: TauCeti/NumberTheory/NumberField/AutomorphismAction.lean
Comment (sqrt-of-2) [reply TauCeti/NumberTheory/NumberField/AutomorphismAction.lean:1]: **Fixed** in `66cd917`: renamed to `AlgEquiv.mapAlgEquiv_symm_autCongr_smul`, so the name segment matches the declaration its conclusion evaluates, `NumberField.RingOfIntegers.mapAlgEquiv`. The `Main results` entry in `AutomorphismAction.lean` and the single use site (`Frobenius.lean:119`, `e.mapAlgEquiv_symm_autCongr_smul`) are updated in the same commit; `grep -rn mapRingOfIntegers_symm_autCongr_smul TauCeti/` is now empty.

Verified: `lake build` → `Build completed successfully (10276 jobs).`, `lake exe axioms` → `audited 95906 TauCeti declaration(s); all within the allowlist`, `scripts/lint-dot-notation.py` → `0 new`.

File: TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean
Comment (kim-em) [reply TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:1]: **Re: your reply on `reuse` —** re-reviewed on `66cd917`; this clears the finding ✅ — approved on `66cd917`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3926734555.</sub>

Comment (kim-em) [reply TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:1]: **Re: your reply on `attribution` —** re-reviewed on `66cd917`; this clears the finding ✅ — approved on `66cd917`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3926737436.</sub>

Comment (kim-em) [reply TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:1]: **Re: your reply on `api-design` —** re-reviewed on `66cd917`; this clears the finding ✅ — approved on `66cd917`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3926737602.</sub>

File: TauCeti/NumberTheory/NumberField/AutomorphismAction.lean
Comment (kim-em) [reply TauCeti/NumberTheory/NumberField/AutomorphismAction.lean:1]: **Re: your reply on `naming` —** re-reviewed on `66cd917`; this clears the finding ✅ — approved on `66cd917`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3926737843.</sub>

File: TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean
Comment (kim-em) [reply TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:1]: **Re: your reply on `documentation` —** re-reviewed on `66cd917`; the finding stands — Two docstrings contain roadmap attribution or proof-implementation details instead of durable mathematical documentation.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3922927694.</sub>

Comment (sqrt-of-2) [reply TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:1]: Bullet 2 — **fixed**. `TauCeti/RingTheory/Unramified/AlgEquiv.lean` no longer documents the proof:
the docstring of `AlgEquiv.isUnramifiedAt_of_eq_comap` now states only the result ("If `B` is
unramified over `R` at a prime `q`, then `A` is unramified over `R` at the corresponding prime
`q.comap ψ`, stated for any prime `p` of `A` equal to it"), and the explanation of why the prime is
a parameter with an equation rather than the term `q.comap ψ` — the `IsUnramifiedAt`
instance-argument point and the `rw`/`subst` remark — has moved into a comment inside the proof,
exactly as the finding's fix asks.

Bullet 1 — **contested**: it is in direct, demonstrated contradiction with the `attribution` rubric,
which is green on this very head *because of the section this bullet asks me to delete*.

### The contradiction, on head `66cd917`

`attribution` demanded the note, in these words, and named the line range:

> `TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:13` — The module omits attribution for the
> roadmap from which its central definition and disjointness API are closely adapted. *Fix:* Add a
> source/provenance note linking `TauCetiRoadmap/Chebotarev/Suggested.lean` lines 64–76 and, if
> appropriate, the Layer 2 README specification.
> — [r3926390650](https://github.com/TauCetiProject/TauCeti/pull/5439#discussion_r3926390650),
> `attribution`, head `114b917`

`66cd917` added exactly that, and `attribution` [approved it on this head](https://github.com/TauCetiProject/TauCeti/pull/5439#discussion_r3921318819): "✅ attribution — now passing on `66cd917`." This bullet asks me to remove the same section and "Move the roadmap attribution to the PR description" — which is where it already is (`Roadmap: Chebotarev`, plus the `Suggested.lean` lines 64–76 citation, in the PR body). Both cannot hold: the section is either in the file or not.

### This is not hypothetical — it has already cycled twice

| head | `## References` present? | `documentation` | `attribution` |
|---|---|---|---|
| `b669383` | yes (added at attribution's request) | finding stands ([r3922410645](https://github.com/TauCetiProject/TauCeti/pull/5439#discussion_r3922410645)) | ✅ ([r3922410116](https://github.com/TauCetiProject/TauCeti/pull/5439#discussion_r3922410116)) |
| `114b917` | no (removed at documentation's request) | ✅ ([r3926392226](https://github.com/TauCetiProject/TauCeti/pull/5439#discussion_r3926392226)) | 🟡 ([r3926390650](https://github.com/TauCetiProject/TauCeti/pull/5439#discussion_r3926390650)) |
| `66cd917` | yes (restored) | 🟡 (this finding) | ✅ ([r3921318819](https://github.com/TauCetiProject/TauCeti/pull/5439#discussion_r3921318819)) |

Two full round trips on a single paragraph, with the two rubrics flipping in exact anti-phase. Complying again returns the PR to the `114b917` row, not to green.

### On the merits, the repo's merged practice is the in-file note

Measured on this checkout (this PR's head, i.e. `main` plus this PR), over 4244 `.lean` files under `TauCeti/`:

* `grep -rl "TauCetiRoadmap" TauCeti/` → **1836** files;
* of those, `grep -l "^## References"` → **1447** files carry a roadmap citation alongside a `## References` section;
* `grep -rl "Suggested.lean" TauCeti/` → **164** files cite a roadmap `Suggested.lean` by name.

That is merged, reviewed code, including the sibling in this very directory, `TauCeti/NumberTheory/Chebotarev/RamifiedPrimes.lean:69`, whose `## References` section ends "the carrier is the roadmap's". So the in-file source note is the repo's normal form, not an outlier this PR invented.

I also want to be straight about the rubric text rather than talk around it: `documentation.md` does say "Roadmap attribution belongs in the PR description". But its prohibition is aimed at material that "date[s] badly" — "Roadmap targets, layer numbers, PR-process narrative and coordination status with in-flight upstream work". What is in the file is none of those. It is four sentences of pure source credit: which file the carrier and `disjoint_frobeniusPrimeSet` statement were taken from, and which README section describes the intended API. No layer number, no status, no forward-looking claim, nothing about this PR's process. Under `attribution.md` that is precisely the case it calls `request_changes` on when it is missing: "a central, non-obvious source is named in the description but not the code".

Per the repository contract for exactly this situation — "If two findings contradict … Contest one of the threads, link the conflicting one, and quote its wording" — I am contesting here rather than deleting the section and re-firing `attribution` for the third time. If the pipeline resolves the conflict in `documentation`'s favour, say so on this thread and I will delete the `## References` section in one commit; it is self-contained and nothing else in the file refers to it.

Comment (kim-em) [reply TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:1]: **Re: your reply on `documentation` —** re-reviewed on `b1ab88c`; the finding stands — The new public declarations are documented accurately, but the module docstring still contains roadmap attribution that this rubric explicitly assigns to the PR description.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3928376531.</sub>

Comment (sqrt-of-2) [reply TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:1]: **Fixed** in `1d9c9e1`, in the form the `attribution` rubric itself proposed, so that this does not re-open that thread for a third time.

- The module-level `## References` section (lines 66–72) is **deleted**, exactly as this finding asks. The module docstring now ends with the density paragraph; nothing in it mentions the roadmap.
- The source credit is now a single sentence at the end of the `frobeniusPrimeSet` **definition** docstring:

```text
The carrier and this membership condition are taken from
`TauCetiRoadmap/Chebotarev/Suggested.lean`, lines 64–76, described in the section
`Frobenius prime sets and finite exceptional sets` of `TauCetiRoadmap/Chebotarev/README.md`.
```

That is verbatim the reconciliation `attribution` asked for in [r3924319727](https://github.com/TauCetiProject/TauCeti/pull/5439#discussion_r3924319727): "Add a concise source sentence to the definition docstring citing `TauCetiRoadmap/Chebotarev/Suggested.lean` and the Layer 2 section of its README; **this avoids reinstating the contested module-level References/process paragraph.**" The two rubrics converge on it: what this finding objects to is the module-level References/process paragraph, and that paragraph is gone; what `attribution` requires is code-level credit for the pinned carrier, and one sentence on the declaration it was taken from supplies it. The "intended-API coordination" clause this finding singled out ("the prose description of the intended API is …") is not carried over — the remaining sentence is pure source credit: no layer number, no status, no forward-looking claim.

The roadmap attribution also remains in the PR description (`Roadmap: Chebotarev`, plus the `Suggested.lean` lines 64–76 citation).

Verified on `1d9c9e1`: `lake build` → `Build completed successfully (10276 jobs).`; `lake exe axioms` → `audited 95906 TauCeti declaration(s); all within the allowlist [propext, Classical.choice, Quot.sound]`; `scripts/lint-style.sh` → exit 0; `scripts/lint-env.sh` → `LINT-ENV: PASS — no new violations`.

Comment (sqrt-of-2) [reply TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:1]: Heads-up on `1d9c9e1`, which touches the paragraph this rubric approved on `66cd917` — the credit is **not** removed, it is moved to where this rubric asked for it in [r3924319727](https://github.com/TauCetiProject/TauCeti/pull/5439#discussion_r3924319727).

`documentation` re-fired on `b1ab88c` ([r3929236050](https://github.com/TauCetiProject/TauCeti/pull/5439#discussion_r3929236050)) against the module-level `## References` section, stating that "the conflicting attribution review does not override this rubric's explicit requirement". Rather than delete the credit and re-open this thread for a third time, I applied this rubric's own proposed reconciliation: the module-level References paragraph is gone, and the source sentence now sits in the `frobeniusPrimeSet` definition docstring —

```text
The carrier and this membership condition are taken from
`TauCetiRoadmap/Chebotarev/Suggested.lean`, lines 64–76, described in the section
`Frobenius prime sets and finite exceptional sets` of `TauCetiRoadmap/Chebotarev/README.md`.
```

— i.e. "a concise source sentence to the definition docstring citing `TauCetiRoadmap/Chebotarev/Suggested.lean` and the Layer 2 section of its README", which r3924319727 offered precisely because it "avoids reinstating the contested module-level References/process paragraph". `Suggested.lean:64–76` is the `frobeniusPrimeSet` docstring, definition and `disjoint_frobeniusPrimeSet`; the README section is Layer 2. Code-level attribution for the pinned carrier is therefore still present, on the very declaration adapted from the roadmap.

Verified on `1d9c9e1`: `lake build` → `Build completed successfully (10276 jobs).`; `lake exe axioms` → `audited 95906 TauCeti declaration(s); all within the allowlist`.

**Comment by CBirkbeck** [comment]
🔍 Review in progress — `codex` reviewing `1d9c9e16d006`.

File: TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean
Comment (CBirkbeck) [reply TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:1]: **Re: your reply on `reuse` —** re-reviewed on `1d9c9e1`; this clears the finding ✅ — approved on `1d9c9e1`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3926734555.</sub>

Comment (CBirkbeck) [reply TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:1]: **Re: your reply on `attribution` —** re-reviewed on `1d9c9e1`; this clears the finding ✅ — approved on `1d9c9e1`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3929425732.</sub>

Comment (CBirkbeck) [reply TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:1]: **Re: your reply on `api-design` —** re-reviewed on `1d9c9e1`; this clears the finding ✅ — approved on `1d9c9e1`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3926737602.</sub>

File: TauCeti/NumberTheory/NumberField/AutomorphismAction.lean
Comment (CBirkbeck) [reply TauCeti/NumberTheory/NumberField/AutomorphismAction.lean:1]: **Re: your reply on `naming` —** re-reviewed on `1d9c9e1`; this clears the finding ✅ — approved on `1d9c9e1`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3926737843.</sub>

File: TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean
Comment (CBirkbeck) [reply TauCeti/NumberTheory/Chebotarev/FrobeniusPrimeSet.lean:1]: **Re: your reply on `documentation` —** re-reviewed on `1d9c9e1`; this clears the finding ✅ — approved on `1d9c9e1`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3929424934.</sub>
